2130-04-25 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2130-4-24**] 08:00 PM
 URINE CULTURE - At [**2130-4-24**] 10:00 PM
 FEVER - 101.7
F - [**2130-4-24**] 08:00 PM
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Amikacin - [**2130-4-24**] 08:00 PM
   Fluconazole - [**2130-4-24**] 08:00 PM
   Vancomycin - [**2130-4-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-24**] 10:00 PM
   Furosemide (Lasix) - [**2130-4-25**] 12:00 AM
   Haloperidol (Haldol) - [**2130-4-25**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-25**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.4
C (101.1
   HR: 96 (94 - 101) bpm
   BP: 127/73(84) {104/35(51) - 127/73(84)} mmHg
   RR: 44 (26 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    492 mL
                                                                    401 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    132 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,755 mL
   Urine:
   1,755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    492 mL
                                                                 -1,354 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.42/47/115/27/5
   PaO2 / FiO2: 121
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   57 K/uL
   97 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   102 mEq/L
   135 mEq/L
   28.2 %
   2.2 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
   WBC
   2.2
   Hct
   28.2
   Plt
   57
   Cr
   0.9
   TCO2
   32
   Glucose
   97
   Other labs: PT / PTT / INR:15.7/45.7/1.4, ALT / AST:34/82, Alk Phos / T
   Bili:243/1.1, Differential-Neuts:80.4 %, Lymph:16.6 %, Mono:2.1 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, LDH:420 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna and progressive respiratory failure
    >Hypox Respiratory failure:  most likely multifocal PNA on a back drop
   of cirrhosis and obesity with low lung voumes.  The differential for
   her PNA includes CAP including legionella given the GI symptoms  as
   well as aspiration in the setting of odontogenic infection, an
   considering the patient is an immunocomprimised host (AZA) atypical
   infections (pneumocystis, virals, and [**Last Name (un) 9201**] pathogens). This latter
   possibility is especially concering in light of her clinical worsening
   on traditional CAP abx.  Finally the ID consultants raise the
   possibility of
   rodent pathogens and pathogens sucha as tularemia endemic to MVY.  In
   terms of support for her hypoxemic respiratory failure will Abx as
   below and supportive O2 with consideration of utilization of CPAP/BiPAP
   as her picture is complicated by obesity with low lung vols and
   atelectasis which further impairs her oxygenation, fialing this she
   would require intubation.
   - Cont Vancomycin, doxycycline and Gent per ID reccomendations
   - F/u clx and serologies as previously outlined.
   - Chest CT and consideration of bronchoscopy with BAL
   - Consider early use of CPAP if clinical deterioration
   - Run net negative goal -500 cc.
   >Autoimmune hepatitis
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Hepatology recommendations appreciated
   > Leukopenia mot likely [**12-26**]  medication effect (eg azathioprine) or
   current infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
    > Tooth infection
   - dental recs
   - panorex when stabilized
    Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-25 08:45:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   - transferred from [**Hospital Ward Name 790**] 10 for dyspnea and O2 requirement
   - confused overnight, taking off her mask, gave 25 mg po Seroquel and
   haldol 1mg
   - ABG while confused without hypercarbia
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Amikacin - [**2130-4-24**] 08:00 PM
   Fluconazole - [**2130-4-24**] 08:00 PM
   Vancomycin - [**2130-4-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-24**] 10:00 PM
   Furosemide (Lasix) - [**2130-4-25**] 12:00 AM
   Haloperidol (Haldol) - [**2130-4-25**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Breathing
a little better
   Flowsheet Data as of  [**2130-4-25**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.4
C (101.1
   HR: 96 (94 - 101) bpm
   BP: 127/73(84) {104/35(51) - 127/73(84)} mmHg
   RR: 44 (26 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    492 mL
                                                                    407 mL
   PO:
                                                                    360 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    132 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,755 mL
   Urine:
   1,755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    492 mL
                                                                 -1,348 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.41/46/212/27/4
   PaO2 / FiO2: 223
   Physical Examination
   Lying in bed, sleepy but arousable
   PEARL sclera anicteric
   Regular S1 S2 no m/r/g
   Lungs with left > right rales, few wheezes
   Abd obese nontender +bowel sounds +fluid wave
   Extrem warm tr bilateral edema, palpable pulses
   Oriented to
[**Hospital **] Hospital
, [**2129**]
   Does not sustain cooperation with asterixis testing. Does squeeze hands
   to command.
   Labs / Radiology
   57 K/uL
   9.3 g/dL
   97 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   102 mEq/L
   135 mEq/L
   28.2 %
   2.2 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
   WBC
   2.2
   Hct
   28.2
   Plt
   57
   Cr
   0.9
   TCO2
   32
   30
   Glucose
   97
   Other labs: PT / PTT / INR:15.7/45.7/1.4, ALT / AST:34/82, Alk Phos / T
   Bili:243/1.1, Differential-Neuts:80.4 %, Lymph:16.6 %, Mono:2.1 %,
   Eos:0.4 %, Lactic Acid:1.2 mmol/L, LDH:420 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   CXR extensive bilateral patchy opacities
   Micro
   [**4-23**], [**4-24**] blood cx NGTD
   [**4-24**] CMV viral load pending
   [**4-24**] cryptococcal antigen pending
   [**4-25**] urine legionella antigen negative
   Tularemia, beta glucan, adenovirus pending
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   .
   * Pneumonia
   Coming from home and therefore at risk for typical and atypical
   bacterial CAP pathogens eg pneumococcus, haemophilis, legionella. Did
   not respond to CAP treatment. Habitation on Cape with possible rodent
   contacts raises the intriguing possibility of pulmonary tularemia --
   consider also hantavirus, though less likely. Given cellular
   immunosuppression, also consider opportunists such as pneumocystis and
   [**Known lastname **]. Given her poor dentition consider also aspiration with oral
   anaerobe.
   - Continue vancomycin, amikacin and doxycycline per ID recommendations
   - Induce sputum for gram stain and culture, PCP, [**Name Initial (NameIs) **]. Respiratory
   virus panel ordered. Check fungal antigens, legionella urinary antigen,
   tularemia and hantavirus serologies. ID also recommended CMV,
   enterovirus, adenovirus PCRs along with cryptococcal and histoplasma
   antigen tests.
   - Check amikacin dose prior to 2^nd dose, goal trough <4
   - Check vanc trough prior to 4^th dose
   - start bactrim IV today empiric PCP [**Name Initial (PRE) **] (day 1 = [**2130-4-25**])
 will
   need to check Sulfa allergy prior to dosing
   - Consider chest CT once MS improves
   - ID recommendations appreciated
   - Obtain OSH records regarding prior treatment
   - attempt induced sputum today
   .
   * Altered mental status
   Pt increasingly somnolent this AM. ABG shows CO2 near baseline. DDx
   includes delirium secondary to infection, ICU, or medications. Also
   consider hepatic encephalopathy.
   - Limit sedating meds, reorient frequently
   - Place NGT to ensure lactulose can be given
   - Continue to treat infection, lactulose for encephalopathy
   - d/c Celexa
   - if not improved this PM, would likely need intubation for airway
   protection
   * Dyspnea: Probably multifactorial with multifocal pna, bronchospasm
   and fluid overload.  I/O negative and CXR worsened so less likely fluid
   overload. Think PE, coronary ischemia less likely.
   - Treat pna as above
   - Continue bronchodilators
   - f/u TTE with bubble for intrapulmonary shunt
   - follow daily wts and I/O goal -500 cc
   * Autoimmune hepatitis: now with likely hepatic encephalopathy
   - place NGT
   - start rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - [**Month (only) 60**] resume spironolactone
   - Hepatology recommendations appreciated
   .
   * Leukopenia
   Probably due to medication effect (eg azathioprine) or current
   infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
   .
   * Anemia and thrombocytopenia
   Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
   .
   * Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   .
   * Tooth infection
   - dental recs
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines: may need A-line today
   20 Gauge - [**2130-4-24**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Communication:  with daughter
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2130-04-26 06:48:00 Physician Resident Progress Note
Chief Complaint: multifocal pneumonia
   24 Hour Events:
   -LDH elevated, induced sputum obtained
   -PCP coverage with clinda / primaquin started (sulfa allergy is
   probably hives)
   -NGT not placed as pt refusing
   -family made patient DNR/DNI
   -patient autodiuresing, negative 1.7 liters by early evening, given
   500cc bolus for SBP of 85
   -ID recs w/ no change
   -MS stable throughout day
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Amikacin - [**2130-4-24**] 08:00 PM
   Fluconazole - [**2130-4-24**] 08:00 PM
   Vancomycin - [**2130-4-26**] 12:46 AM
   Clindamycin - [**2130-4-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-26**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 93 (85 - 101) bpm
   BP: 97/55(66) {85/32(50) - 115/64(74)} mmHg
   RR: 42 (22 - 42) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,510 mL
                                                                    318 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,390 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    240 mL
   Urine:
                                                                  2,405 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.41/46/212/27/4
   PaO2 / FiO2: 424
   Physical Examination
   Lying in bed, sleepy but arousable
   PEARL sclera anicteric
   Regular S1 S2 no m/r/g
   Lungs with left > right rales, few wheezes
   Abd obese nontender +bowel sounds +fluid wave
   Extrem warm tr bilateral edema, palpable pulses
   Oriented to
[**Hospital **] Hospital
, [**2129**]
   Does not sustain cooperation with asterixis testing. Does squeeze hands
   to command.
   Labs / Radiology
   67 K/uL
   9.0 g/dL
   131 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   101 mEq/L
   134 mEq/L
   26.6 %
   2.5 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
   WBC
   2.2
   2.5
   Hct
   28.2
   26.6
   Plt
   57
   67
   Cr
   0.9
   0.8
   TCO2
   32
   30
   Glucose
   97
   131
   Other labs: PT / PTT / INR:15.2/45.7/1.3, ALT / AST:29/76, Alk Phos / T
   Bili:221/1.0, Differential-Neuts:80.4 %, Lymph:16.6 %, Mono:2.1 %,
   Eos:0.4 %, Lactic Acid:1.2 mmol/L, LDH:443 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   .
   * Pneumonia
   Coming from home and therefore at risk for typical and atypical
   bacterial CAP pathogens eg pneumococcus, haemophilis, legionella. Did
   not respond to CAP treatment. Habitation on Cape with possible rodent
   contacts raises the intriguing possibility of pulmonary tularemia --
   consider also hantavirus, though less likely. Given cellular
   immunosuppression, also consider opportunists such as pneumocystis and
   [**Known lastname **]. Given her poor dentition consider also aspiration with oral
   anaerobe.
   - Continue vancomycin, amikacin and doxycycline per ID recommendations
   - Induce sputum for gram stain and culture, PCP, [**Name Initial (NameIs) **]. Respiratory
   virus panel ordered. Check fungal antigens, legionella urinary antigen,
   tularemia and hantavirus serologies. ID also recommended CMV,
   enterovirus, adenovirus PCRs along with cryptococcal and histoplasma
   antigen tests.
   - Check amikacin dose prior to 2^nd dose, goal trough <4
   - Check vanc trough prior to 4^th dose
   - start bactrim IV today empiric PCP [**Name Initial (PRE) **] (day 1 = [**2130-4-25**])
 will
   need to check Sulfa allergy prior to dosing
   - Consider chest CT once MS improves
   - ID recommendations appreciated
   - Obtain OSH records regarding prior treatment
   - attempt induced sputum today
   .
   * Altered mental status
   Pt increasingly somnolent this AM. ABG shows CO2 near baseline. DDx
   includes delirium secondary to infection, ICU, or medications. Also
   consider hepatic encephalopathy.
   - Limit sedating meds, reorient frequently
   - Place NGT to ensure lactulose can be given
   - Continue to treat infection, lactulose for encephalopathy
   - d/c Celexa
   - if not improved this PM, would likely need intubation for airway
   protection
   * Dyspnea: Probably multifactorial with multifocal pna, bronchospasm
   and fluid overload.  I/O negative and CXR worsened so less likely fluid
   overload. Think PE, coronary ischemia less likely.
   - Treat pna as above
   - Continue bronchodilators
   - f/u TTE with bubble for intrapulmonary shunt
   - follow daily wts and I/O goal -500 cc
   * Autoimmune hepatitis: now with likely hepatic encephalopathy
   - place NGT
   - start rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - [**Month (only) 60**] resume spironolactone
   - Hepatology recommendations appreciated
   .
   * Leukopenia
   Probably due to medication effect (eg azathioprine) or current
   infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
   .
   * Anemia and thrombocytopenia
   Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
   .
   * Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   .
   * Tooth infection
   - dental recs
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2130-04-26 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Cough (thick tan)
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Amikacin - [**2130-4-24**] 08:00 PM
   Fluconazole - [**2130-4-24**] 08:00 PM
   Vancomycin - [**2130-4-26**] 12:46 AM
   Clindamycin - [**2130-4-26**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-26**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 93 (85 - 101) bpm
   BP: 90/48(55) {85/32(50) - 115/64(74)} mmHg
   RR: 22 (22 - 42) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,510 mL
                                                                    333 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,390 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    275 mL
   Urine:
                                                                  2,405 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -895 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.41/46/212/27/4
   PaO2 / FiO2: 424
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, with
   reducible abdominal hernia
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, A+O x 3
   Labs / Radiology
   9.0 g/dL
   67 K/uL
   131 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   101 mEq/L
   134 mEq/L
   26.6 %
   2.5 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
   WBC
   2.2
   2.5
   Hct
   28.2
   26.6
   Plt
   57
   67
   Cr
   0.9
   0.8
   TCO2
   32
   30
   Glucose
   97
   131
   Other labs: PT / PTT / INR:15.2/45.7/1.3, ALT / AST:29/76, Alk Phos / T
   Bili:221/1.0, Differential-Neuts:80.4 %, Lymph:16.6 %, Mono:2.1 %,
   Eos:0.4 %, Lactic Acid:1.2 mmol/L, LDH:443 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   TTE [**4-25**] The left atrium is mildly dilated. No atrial septal defect or
   patent foramen ovale is seen by 2D, color Doppler or saline contrast
   however images were suboptimal and patient was unable to cooperate with
   maneuvers. No evidence of pulmonary AV shunting identified by
   technically limited agitated saline study. Left ventricular wall
   thicknesses are normal. The left ventricular cavity size is normal.
   Overall left ventricular systolic function is normal (LVEF>55%). Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets are moderately thickened. There is a minimally increased
   gradient consistent with minimal aortic valve stenosis. No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Mild (1+) mitral regurgitation is seen. The tricuspid valve leaflets
   are mildly thickened. There is borderline pulmonary artery systolic
   hypertension. There is a trivial/physiologic pericardial effusion.
   No vegetation seen (cannot definitively exclude
   CXR [**4-26**]: mulit focal PNA
   CT chest:
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna and progressive respiratory failure no clx
   results at this point
    >Hypox Respiratory failure:  most likely multifocal PNA on a back drop
   of cirrhosis and obesity with low lung voumes.  The differential for
   her PNA as previously outlined. We are covering broadly and awaiting
   the results of serologies and cultures.
   - Cont Vancomycin, doxycycline and Amikacin  per ID reccomendations
   - Cont treatment for PCP pending outcome of induced sputum
   - F/u clx and serologies as previously outlined.
   - Run net negative goal -500 cc.
   - continue  nebs
   >Autoimmune hepatitis
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Hepatology recommendations appreciated
    > Leukopenia mot likely [**12-26**]  medication effect (eg azathioprine) or
   current infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
    > Confusion/Agitation: now resolved will cont home lactulose and rifax
   - hold nortryptilene and  restart celexa
    > Tooth infection
   - dental recs
   - panorex when stabilized
    Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-4-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-27 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vanc level 21.7, re dosed to 1250mg Q 12
   ID recommends HIV, mycoplasma PCR (unable to order without pathology
   approval), as well as bronch.
   Sent cold agglutinins, mycoplasma IgM/IgG, started empiric Azithromycin
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Fluconazole - [**2130-4-24**] 08:00 PM
   Linezolid - [**2130-4-26**] 04:00 PM
   Amikacin - [**2130-4-26**] 10:00 PM
   Vancomycin - [**2130-4-27**] 04:00 AM
   Clindamycin - [**2130-4-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-27**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 87 (86 - 107) bpm
   BP: 98/44(56) {74/40(54) - 128/5,451(87)} mmHg
   RR: 37 (21 - 45) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,870 mL
                                                                    322 mL
   PO:
                                                                    880 mL
             TF:
   IVF:
                                                                    990 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    150 mL
   Urine:
                                                                  1,085 mL
                                                                    150 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                    -65 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Lying in bed, sleepy but arousable
   PEARL sclera anicteric
   Regular S1 S2 no m/r/g
   Lungs with left > right rales, few wheezes
   Abd obese nontender +bowel sounds +fluid wave
   Extrem warm tr bilateral edema, palpable pulses
   Oriented to
[**Hospital **] Hospital
, [**2129**]
   Does not sustain cooperation with asterixis testing. Does squeeze hands
   to command
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   9.3 g/dL
   131 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   16 mg/dL
   102 mEq/L
   135 mEq/L
   28.2 %
   3.8 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
   WBC
   2.2
   2.5
   3.8
   Hct
   28.2
   26.6
   28.2
   Plt
   57
   67
   87
   Cr
   0.9
   0.8
   0.9
   TCO2
   32
   30
   Glucose
   97
   131
   Other labs: PT / PTT / INR:16.0/39.0/1.4, ALT / AST:28/70, Alk Phos / T
   Bili:216/1.0, Differential-Neuts:80.4 %, Lymph:16.6 %, Mono:2.1 %,
   Eos:0.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:478 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   .
   * Multifocal Pneumonia: CT scan with diffuse disease
   - Continue vancomycin, amikacin and doxycycline per ID recommendations
   - F/U sputum culture, PCP, [**Name Initial (NameIs) **].
   - Negative respiratory panel
   - Pending studies include fungal antigens, legionella urinary antigen,
   tularemia and hantavirus serologies.
   - ID also recommended CMV, enterovirus, adenovirus PCRs along with
   cryptococcal and histoplasma antigen tests.
   - Check amikacin dose prior to 2^nd dose, goal trough <4
   - Check vanc trough prior to 4^th dose, erroneous through obtained at
   3am, true trough pending from 9 am
   - Continue bactrim IV  for empiric PCP [**Name Initial (PRE) **] (day 1 = [**2130-4-25**])
   - ID recommendations appreciated
   - attempt expectorated sputum today
   .
   * Altered mental status
   Improved now with lactulose and likely improving pneumonia.
   - Limit sedating meds, reorient frequently
   - Continue lactulose
   - Continue to treat infection, lactulose for encephalopathy
   - Continue Celexa
   - Monitor for airway protection
   * Dyspnea: Probably multifactorial with multifocal pna, bronchospasm
   and fluid overload.  I/O negative and CXR worsened so less likely fluid
   overload. Think PE, coronary ischemia less likely.
   - Treat pna as above
   - Continue bronchodilators
   - TTE with bubble negative for intrapulmonary shunt
   - follow daily wts and I/O goal -500 cc
   * Autoimmune hepatitis: now with likely hepatic encephalopathy
   - place NGT
   - start rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - [**Month (only) 60**] resume spironolactone
   - Hepatology recommendations appreciated
   .
   * Leukopenia
   Probably due to medication effect (eg azathioprine) or current
   infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
   .
   * Anemia and thrombocytopenia
   Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
   .
   * Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   .
   * Tooth infection
   - dental recs
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-26**] 05:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-27 07:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Fluconazole - [**2130-4-24**] 08:00 PM
   Linezolid - [**2130-4-26**] 04:00 PM
   Amikacin - [**2130-4-26**] 10:00 PM
   Clindamycin - [**2130-4-27**] 04:00 AM
   Vancomycin - [**2130-4-27**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-26**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-27**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 87 (86 - 107) bpm
   BP: 98/44(56) {74/40(54) - 128/5,451(87)} mmHg
   RR: 37 (21 - 45) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,870 mL
                                                                    327 mL
   PO:
                                                                    880 mL
             TF:
   IVF:
                                                                    990 mL
                                                                    327 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    150 mL
   Urine:
                                                                  1,085 mL
                                                                    150 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                    -65 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   87 K/uL
   131 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.8 mEq/L
   16 mg/dL
   102 mEq/L
   135 mEq/L
   28.2 %
   3.8 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
   WBC
   2.2
   2.5
   3.8
   Hct
   28.2
   26.6
   28.2
   Plt
   57
   67
   87
   Cr
   0.9
   0.8
   0.9
   TCO2
   32
   30
   Glucose
   97
   131
   Other labs: PT / PTT / INR:16.0/39.0/1.4, ALT / AST:28/70, Alk Phos / T
   Bili:216/1.0, Differential-Neuts:80.4 %, Lymph:16.6 %, Mono:2.1 %,
   Eos:0.4 %, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:478 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   * Multifocal Pneumonia: CT scan with diffuse disease
   - Continue vancomycin, amikacin and doxycycline per ID recommendations
   - F/U sputum culture, PCP, [**Name Initial (NameIs) **].
   - Negative respiratory panel
   - Pending studies include fungal antigens, legionella urinary antigen,
   tularemia and hantavirus serologies.
   - ID also recommended CMV, enterovirus, adenovirus PCRs along with
   cryptococcal and histoplasma antigen tests.
   - Check amikacin dose prior to 2nd dose, goal trough <4
   - Check vanc trough prior to 4th dose, erroneous through obtained at
   3am, true trough pending from 9 am
   - Continue bactrim IV  for empiric PCP [**Name Initial (PRE) **] (day 1 = [**2130-4-25**])
   - ID recommendations appreciated
   - attempt expectorated sputum today
   .
   * Altered mental status Improved now with lactulose and likely
   improving pneumonia.
   - Limit sedating meds, reorient frequently
   - Continue lactulose
   - Continue to treat infection, lactulose for encephalopathy
   - Continue Celexa
   - Monitor for airway protection
   * Dyspnea: Probably multifactorial with multifocal pna, bronchospasm
   and fluid overload.  I/O negative and CXR worsened so less likely fluid
   overload. Think PE, coronary ischemia less likely.
   - Treat pna as above
   - Continue bronchodilators
   - TTE with bubble negative for intrapulmonary shunt
   - follow daily wts and I/O goal -500 cc
   * Autoimmune hepatitis: now with likely hepatic encephalopathy
   - place NGT
   - start rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - [**Month (only) 60**] resume spironolactone
   - Hepatology recommendations appreciated
   .
   * Leukopenia
   Probably due to medication effect (eg azathioprine) or current
   infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
   * Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
   * Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: tolerating PO
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-26**] 05:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-28 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - induced sputum collected
   - gave IV lasix 20 mg x 1 for I/O goal
   - S&S recommended thin liquids and will evaluate again
   - pt was refusing lactulose but now amenable
   - attempting to wean O2 requirement
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2130-4-26**] 04:00 PM
   Vancomycin - [**2130-4-27**] 08:16 PM
   Amikacin - [**2130-4-27**] 10:25 PM
   Clindamycin - [**2130-4-28**] 04:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-27**] 09:20 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-27**] 02:26 PM
   Furosemide (Lasix) - [**2130-4-27**] 06:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-28**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 94 (91 - 102) bpm
   BP: 95/50(61) {94/46(59) - 119/64(77)} mmHg
   RR: 36 (21 - 45) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,590 mL
                                                                    321 mL
   PO:
                                                                    300 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    280 mL
   Urine:
                                                                  1,035 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    555 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///29/
   Physical Examination
   GEN: tachypneic, working to breathe
   HEENT: anicteric, PERRL
   CHEST: diffuse crackles in bilateral lungs
   CV: RRR, no m/r/g
   ABD: NDNT, soft NABS
   EXT: no c/c/e
   NEURO: A&O
   DERM: no rashes noted
   Labs / Radiology
   110 K/uL
   9.2 g/dL
   117 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   18 mg/dL
   101 mEq/L
   136 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
                             [**2130-4-28**]  02:40 AM
   WBC
   2.2
   2.5
   3.8
   4.4
   Hct
   28.2
   26.6
   28.2
   28.4
   Plt
   57
   67
   87
   110
   Cr
   0.9
   0.8
   0.9
   1.0
   TCO2
   32
   30
   Glucose
   97
   131
   117
   Other labs: PT / PTT / INR:16.0/39.0/1.4, ALT / AST:24/56, Alk Phos / T
   Bili:192/1.1, Differential-Neuts:82.9 %, Band:0.0 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:2.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:447 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   .
   * Dyspnea: Increased O2 requirment today with FiO2 80%.  Likely
   secondary to multifocal pna and exacerbated by fluid overload
   -  IV lasix 40 mg x 1 now
   - I/O goal -1 L today
   - supplemental O2
   - use
   .
   * Multifocal Pneumonia: CT scan with diffuse disease
   - Continue antibioitics per ID
   - appreciate ID input, at this point, would not pursue bronch  as would
   need to be intubated
   - induced sputum today
   - F/U sputum culture, PCP, [**Name10 (NameIs) **], Pending studies include fungal
   antigens, legionella urinary antigen, tularemia and hantavirus
   serologies
   - Continue bactrim IV  for empiric PCP [**Name Initial (PRE) **] (day 1 = [**2130-4-25**])
   2^nd sputum induced negative, will d/c PCP [**Name Initial (PRE) **]
   .
   * Altered mental status: Improved now with lactulose and likely
   improving pneumonia.
   - Limit sedating meds, reorient frequently
   - Continue lactulose
   - Continue Celexa
   - Monitor for airway protection
   * Dyspnea: Probably multifactorial with multifocal pna, bronchospasm
   and fluid overload\
   - Treat pna as above
   - Continue bronchodilators
   - follow daily wts and I/O goal -500 cc to even
   - start lasix 40 mg po daily
   * Autoimmune hepatitis: now with likely hepatic encephalopathy
   - start rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Hepatology recommendations appreciated
   .
   * Leukopenia - improving
   Probably due to medication effect (eg azathioprine) or current
   infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
   .
   * Anemia and thrombocytopenia
   Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
   .
   * Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   .
   * Tooth infection
   - dental recs
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-27**] 06:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-28 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Increasingly tachypneic and increasing O2 requriement
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2130-4-26**] 04:00 PM
   Vancomycin - [**2130-4-27**] 08:16 PM
   Amikacin - [**2130-4-27**] 10:25 PM
   Clindamycin - [**2130-4-28**] 04:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-4-27**] 09:20 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-27**] 02:26 PM
   Furosemide (Lasix) - [**2130-4-27**] 06:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-28**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 94 (91 - 102) bpm
   BP: 95/50(61) {94/46(59) - 119/64(77)} mmHg
   RR: 36 (21 - 45) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,590 mL
                                                                    330 mL
   PO:
                                                                    300 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    280 mL
   Urine:
                                                                  1,035 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    555 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, tachypneic, using acess muscles,
   coughing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   110 K/uL
   117 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   18 mg/dL
   101 mEq/L
   136 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
                             [**2130-4-28**]  02:40 AM
   WBC
   2.2
   2.5
   3.8
   4.4
   Hct
   28.2
   26.6
   28.2
   28.4
   Plt
   57
   67
   87
   110
   Cr
   0.9
   0.8
   0.9
   1.0
   TCO2
   32
   30
   Glucose
   97
   131
   117
   Other labs: PT / PTT / INR:16.0/39.0/1.4, ALT / AST:24/56, Alk Phos / T
   Bili:192/1.1, Differential-Neuts:82.9 %, Band:0.0 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:2.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:447 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   CXR [**4-28**]: worsened CXR with superimposed volume (likely effusions as
   well)
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna, this AM with worsening of
   overall resp status this AM.
   > Multifocal Pneumonia: CT scan with diffuse disease now with
   increasing work of breathing and O2 requirement.
   - Continue vancomycin, amikacin and doxycycline per ID recommendations
   - F/U sputum culture, PCP, [**Name Initial (NameIs) **] (unable to get bronchoscopy at this
   point in the absence of intubation at this point and patient is DNI)
   - Pending studies include fungal antigens, legionella urinary antigen,
   tularemia and hantavirus serologies.
   - Check amikacin dose prior to 2nd dose, goal trough <4
   - Check vanc trough prior to 4th dose, erroneous through obtained at
   3am, true trough pending from 9 am
   - Continue Clinda/ Primaquine will stop if neg PCP on induced sputum.
   - ID recommendations appreciated
   > Altered mental status Improved now with lactulose and likely
   improving pneumonia.
   - Limit sedating meds, reorient frequently
   - Continue lactulose
   - Continue to treat infection, lactulose for encephalopathy
   - Continue Celexa
   - Monitor for airway protection
   > Dyspnea: Probably multifactorial with multifocal pna, bronchospasm
   and fluid overload.  I/O negative and CXR worsened so less likely fluid
   overload. Think PE, coronary ischemia less likely.  Appears like volume
   playing a role now (based on CXR appearance)
   - Treat pna as above
   - Continue bronchodilators
   - follow daily wts and I/O goal -500 cc
   - Seems reasonable to trial BiPAP for (decrease pre-load, afterload)
   and
   - morphine for comfort if needed
   > Autoimmune hepatitis: now with likely hepatic encephalopathy
   - place NGT
   - cont rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - [**Month (only) 60**] resume spironolactone
   - Hepatology recommendations appreciated
   > Leukopenia: slowly improving  Probably due to medication effect (eg
   azathioprine) or current infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
   > Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
    >Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-4-27**] 06:34 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-28 23:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CXR and oxygenation worsening, 500cc positive from day prior
   -given 40mg IV lasix then started on 8mg/hr lasix drip for some
   superimposed pulm edema
   -started solumedrol 125mg IV q8hrs for possible superimposed boop, with
   plan if no improvement then to discontinue, started fluconazole 200mg
   po daily for possible fungal source
   -resent B glucan and galactomannan
   -ordered a PICC line (placed this morning)
   -plan to use ativan and zofran as pretreatment for prn BiPAP
   -patient DNR / DNI, worsening status and poor prognosis discussed with
   daughter
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2130-4-26**] 04:00 PM
   Vancomycin - [**2130-4-27**] 08:16 PM
   Amikacin - [**2130-4-27**] 10:25 PM
   Clindamycin - [**2130-4-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2130-4-28**] 09:59 AM
   Lorazepam (Ativan) - [**2130-4-28**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-28**] 09:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-28**] 11:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 98 (91 - 101) bpm
   BP: 108/54(67) {77/27(42) - 112/61(70)} mmHg
   RR: 34 (18 - 45) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,590 mL
                                                                    990 mL
   PO:
                                                                    300 mL
                                                                    550 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                  1,950 mL
   Urine:
                                                                  1,035 mL
                                                                  1,700 mL
   NG:
   Stool:
   250 mL
   Drains:
   Balance:
                                                                    555 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (544 - 544) mL
   RR (Spontaneous): 37
   PEEP: 7 cmH2O
   FiO2: 80%
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 14.9 L/min
   Physical Examination
   GEN: NAD, AOX3
   HEENT: EOMI, PERRL, ATRUAMTIC, NORMOCEPHALIC
   CARD: RRR, NO M/R/G
   PULM: DIFFUSE RONCHI BILATERALLY
   ABD: OBESE, MOD DISTENSION, NO TENDERNESS, BS+
   EXT: 2+ PITTING EDEMA TO KNEES BILATERALLY SYMMETRIC
   NEURO: AOX3, GROSSLY NORMAL
   Labs / Radiology
   110 K/uL
   9.2 g/dL
   185 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   19 mg/dL
   101 mEq/L
   138 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
                             [**2130-4-28**]  02:40 AM
                             [**2130-4-28**]  09:57 PM
                                  [**2130-4-29**] AM
   WBC
   2.2
   2.5
   3.8
   4.4
   2.3
   Hct
   28.2
   26.6
   28.2
   28.4
   28.2
   Plt
   57
   67
   87
   110
   101
   Cr
   0.9
   0.8
   0.9
   1.0
   1.0
   TCO2
   32
   30
   Glucose
   97
   131
   117
   185
   Other labs: PT / PTT / INR:16.0/39.0/1.4, ALT / AST:24/56, Alk Phos / T
   Bili:192/1.1, Differential-Neuts:82.9 %, Band:0.0 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:2.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:447 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Pla
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   * Dyspnea / Multifocal Pneumonia: Patient with increased O2
   requirements, requiring BiPAP intermittently  (pre-treated with ativan
   and zofran)
   - will use BiPAP as tolerated
   - on doxycycline, clinda, primaquine for tularemia and PCP empirically,
   awaiting tularemia serologies and PCP from sputum
   - repeat sputum cx until obtain a good sample
   - continue empiric broad spectrum abx w/ vancomycin and amikacin as
   well
   - continue current vanco dosing x 3 doses (1500mg daily) and recheck
   level after third dose
   - some component of volume overload, goal I/O negative; continue lasix
   drip at 8mg/hour and continue until BP drops
   - solumedrol 125mg IV q8hrs given x 3 doses overnight (for possible
   post infectious BOOP); then will decrease to 60mg [**Hospital1 **]
   - fluconazole 200mg PO daily given empirically, started [**2130-4-28**]
   - f/u ID recs
   - continue to treat supportively, patient is DNI
   - family member called late night on [**4-28**] with information that the
   patient was exposed to a "sick cat" prior to the onset of her illness,
   d/w ID the significance of this
   * Altered mental status: waxes and wanes, in general is AOx 3 and
   appropriate but occasionally drowsy. [**Month (only) 60**] benefit from weaning steroids,
   treating hypoxia.
   - Continue lactulose, patient occasionally refuses but will continue to
   encourage her
   - Limit sedating meds, reorient frequently
   - Continue lactulose
   - Continue citalopram
   * Autoimmune hepatitis:
   - continue  rifaximin, lactulose and ursodiol, hold azathioprine given
   infection
   * Leukopenia - improving
   Probably due to medication effect (eg azathioprine) or current
   infection.
   * Asthma
   -Continue inhalers
   -systemic steroids as above
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-27**] 06:34 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-29 04:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CXR and oxygenation worsening, 500cc positive from day prior
   -given 40mg IV lasix then started on 8mg/hr lasix drip for some
   superimposed pulm edema
   -started solumedrol 125mg IV q8hrs for possible superimposed boop, with
   plan if no improvement then to discontinue, started fluconazole 200mg
   po daily for possible fungal source
   -resent B glucan and galactomannan
   -ordered a PICC line
   -plan to use ativan and zofran as pretreatment for prn BiPAP
   -patient DNR / DNI, worsening status and poor prognosis discussed with
   daughter
   -tolerated BiPAP for 5 hours overnight then could not anymore due to
   anxiety despite IV ativan, delerius, possibly due to steroids
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2130-4-26**] 04:00 PM
   Vancomycin - [**2130-4-27**] 08:16 PM
   Amikacin - [**2130-4-27**] 10:25 PM
   Clindamycin - [**2130-4-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-4-28**] 09:59 AM
   Lorazepam (Ativan) - [**2130-4-28**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-28**] 09:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-29**] 04:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 88 (85 - 101) bpm
   BP: 95/36(56) {77/27(42) - 112/69(72)} mmHg
   RR: 21 (18 - 45) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,009 mL
                                                                     78 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                    459 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    395 mL
   Urine:
                                                                  1,980 mL
                                                                    395 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,221 mL
                                                                   -317 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 557 (544 - 557) mL
   PS : 13 cmH2O
   RR (Spontaneous): 40
   PEEP: 7 cmH2O
   FiO2: 80%
   PIP: 21 cmH2O
   SpO2: 90%
   ABG: ///30/
   Ve: 13.1 L/min
   Physical Examination
   GEN: NAD, AOX3
   HEENT: EOMI, PERRL, ATRUAMTIC, NORMOCEPHALIC
   CARD: RRR, NO M/R/G
   PULM: DIFFUSE RONCHI BILATERALLY
   ABD: OBESE, MOD DISTENSION, NO TENDERNESS, BS+
   EXT: 2+ PITTING EDEMA TO KNEES BILATERALLY SYMMETRIC
   NEURO: AOX3, GROSSLY NORMAL
   Labs / Radiology
   110 K/uL
   9.2 g/dL
   185 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   19 mg/dL
   101 mEq/L
   138 mEq/L
   28.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
                             [**2130-4-28**]  02:40 AM
                             [**2130-4-28**]  09:57 PM
   WBC
   2.2
   2.5
   3.8
   4.4
   Hct
   28.2
   26.6
   28.2
   28.4
   Plt
   57
   67
   87
   110
   Cr
   0.9
   0.8
   0.9
   1.0
   1.0
   TCO2
   32
   30
   Glucose
   97
   131
   117
   185
   Other labs: PT / PTT / INR:16.0/39.0/1.4, ALT / AST:24/56, Alk Phos / T
   Bili:192/1.1, Differential-Neuts:82.9 %, Band:0.0 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:2.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:447 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   * Dyspnea / Multifocal Pneumonia: Patient with increased O2
   requirements, requiring BiPAP overnight.   (if requires BiPAP will
   pretreat with ativan and zofran)
   -on doxycycline, clinda, primaquine for tularemia and PCP empirically,
   awaiting tularemia serologies and PCP from sputum
   [**Name9 (PRE) 2320**] sputum cx until obtain a good sample
   -continue empiric broad spectrum abx w/ vanc and amikacin as well
   -f/u vanc level and dose accordingly
   -some component of volume overload, goal I/O negative 1 liter
   -solumedrol 125mg IV q8hrs given x 3 doses overnight (for possible post
   infectious BOOP)
   -fluconazole 200mg PO daily given empirically, started [**2130-4-28**]
   -f/u ID recs
   -continue to treat supportively, patient is DNI
   -family member called late night on [**4-28**] with information that the
   patient was exposed to a "sick cat" prior to the onset of her illness,
   d/w ID the significance of this
   * Altered mental status: waxes and wanes, in general is AOx 3 and
   appropriate but occasionally drowsy.
   -continue lactulose, patient occasionally refuses but will continue to
   encourage her
   - Limit sedating meds, reorient frequently
   - Continue lactulose
   - Continue Celexa
   * Autoimmune hepatitis:
   - continue  rifaximin, lactulose and ursodiol, hold azathioprine given
   infection
   * Leukopenia - improving
   Probably due to medication effect (eg azathioprine) or current
   infection.
   * Asthma
   -Continue inhalers
   -systemic steroids as above
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-27**] 06:34 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2130-04-29 08:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Still with high O2 requirement, intermittently tolerating BiPAP.
   > diuresed well overnight
   > PICC line [**4-29**] AM
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2130-4-26**] 04:00 PM
   Vancomycin - [**2130-4-27**] 08:16 PM
   Amikacin - [**2130-4-27**] 10:25 PM
   Clindamycin - [**2130-4-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2130-4-28**] 09:59 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-28**] 09:54 PM
   Lorazepam (Ativan) - [**2130-4-28**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-29**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 93 (85 - 101) bpm
   BP: 113/61(73) {77/27(42) - 119/69(73)} mmHg
   RR: 24 (18 - 45) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,009 mL
                                                                    147 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                    459 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    765 mL
   Urine:
                                                                  1,980 mL
                                                                    765 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -1,221 mL
                                                                   -618 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 584 (544 - 584) mL
   PS : 13 cmH2O
   RR (Spontaneous): 44
   PEEP: 8 cmH2O
   FiO2: 95% (on NRB, 4L)
   PIP: 22 cmH2O
   SpO2: 94%
   ABG: ///33/
   Ve: 17 L/min
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   101 K/uL
   158 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.6 mEq/L
   20 mg/dL
   101 mEq/L
   141 mEq/L
   28.2 %
   2.9 K/uL
        [image002.jpg]
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
                             [**2130-4-28**]  02:40 AM
                             [**2130-4-28**]  09:57 PM
                             [**2130-4-29**]  04:58 AM
   WBC
   2.2
   2.5
   3.8
   4.4
   2.9
   Hct
   28.2
   26.6
   28.2
   28.4
   28.2
   Plt
   57
   67
   87
   110
   101
   Cr
   0.9
   0.8
   0.9
   1.0
   1.0
   1.0
   TCO2
   32
   30
   Glucose
   97
   131
   117
   185
   158
   Other labs: PT / PTT / INR:16.0/39.0/1.4, ALT / AST:22/46, Alk Phos / T
   Bili:184/1.2, Differential-Neuts:82.9 %, Band:0.0 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:2.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:476 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   CXR [**4-29**]: signif b/l multifocal PNA with superimposed volume
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna, this AM with worsening of overall resp
   status in the last few days.
   > Multifocal Pneumonia: CT scan with diffuse disease now with
   increasing work of breathing and O2 requirement.
   - Continue vancomycin, amikacin and doxycycline per ID recommendations
   - F/U sputum culture, PCP, [**Name Initial (NameIs) **] (unable to get bronchoscopy at this
   point in the absence of intubation at this point and patient is DNI)
   - Pending studies include fungal antigens, legionella urinary antigen,
   tularemia and hantavirus serologies.
   - Check amikacin dose prior to 2nd dose, goal trough <4
   - Check vanc trough prior to 4th dose, erroneous through obtained at
   3am, true trough pending from 9 am
   - Continue Clinda/ Primaquine will stop if neg PCP on induced sputum.
   - ID recommendations appreciated
   > Altered mental status: worsened with recent steroid dosing.  Improved
   now with lactulose and likely improving pneumonia.
   - Limit sedating meds, reorient frequently
   - Continue lactulose
   - Continue to treat infection, lactulose for encephalopathy
   - Continue Celexa
    > Dyspnea: Probably multifactorial with multifocal pna, bronchospasm
   and fluid overload.  I/O negative and CXR worsened so less likely fluid
   overload. Think PE, coronary ischemia less likely.  Appears like volume
   playing a role now (based on CXR appearance). Could this be post
   infectious COP (seems unlikely but given grim prognosis reasonable to
   trial steroids [**4-28**]) and anti-fungal coverage
   - Treat pna as above
   - Continue bronchodilators
   - follow daily wts and I/O goal -500 cc
   - has not been able to tolerate BiPAP (even with anxiolytics), although
   wore for about 4 hrs last night , will cont to trial.
   - Steroids for 24hrs to see if improvement (decrease to solumedrol 60
   mg q 12h) as they appear to be having a deleterious affect on MS.
   - Abd U/S ? abdominal fluid, could be helpful in underlying atelectasis
   > Autoimmune hepatitis: now with likely hepatic encephalopathy
   - place NGT
   - cont rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - [**Month (only) 60**] resume spironolactone
   - Hepatology recommendations appreciated
   > Leukopenia: slowly improving  Probably due to medication effect (eg
   azathioprine) or current infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
    > Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
   >Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-4-27**] 06:34 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Family updated on overall poor prognosis.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-04-30 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PICC placed, went up IJ, pulled to be in subclavian (not truly
   central, but okay for pressors if needed)
   -CXR and oxygenation continued to worsen, was on Bipap periodically
   -Daughter, patient, sister held meeting; decided to reverse DNR/DNI;
   aware that course may include tracheostomy, prolonged ventilator rehab,
   and possible permanent ventilator dependence
   -Now full code
   -Amikacin trough was 6.6
   -Intubated at 9pm given tachypnea, worsening hypoxia, inability to
   tolerate BiPap mask
   -A-line placed
   -Vent settings currently: 15 PEEP, FiO2 60%
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Linezolid - [**2130-4-26**] 04:00 PM
   Vancomycin - [**2130-4-27**] 08:16 PM
   Amikacin - [**2130-4-27**] 10:25 PM
   Clindamycin - [**2130-4-28**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2130-4-28**] 09:59 AM
   Lorazepam (Ativan) - [**2130-4-28**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2130-4-28**] 09:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-28**] 11:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 98 (91 - 101) bpm
   BP: 108/54(67) {77/27(42) - 112/61(70)} mmHg
   RR: 34 (18 - 45) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,590 mL
                                                                    990 mL
   PO:
                                                                    300 mL
                                                                    550 mL
   TF:
   IVF:
                                                                  1,290 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                  1,950 mL
   Urine:
                                                                  1,035 mL
                                                                  1,700 mL
   NG:
   Stool:
   250 mL
   Drains:
   Balance:
                                                                    555 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 544 (544 - 544) mL
   RR (Spontaneous): 37
   PEEP: 7 cmH2O
   FiO2: 80%
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 14.9 L/min
   Physical Examination
   GEN: NAD, AOX3
   HEENT: EOMI, PERRL, ATRUAMTIC, NORMOCEPHALIC
   CARD: RRR, NO M/R/G
   PULM: DIFFUSE RONCHI BILATERALLY
   ABD: OBESE, MOD DISTENSION, NO TENDERNESS, BS+
   EXT: 2+ PITTING EDEMA TO KNEES BILATERALLY SYMMETRIC
   NEURO: AOX3, GROSSLY NORMAL
   Labs / Radiology
   110 K/uL
   9.2 g/dL
   185 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   19 mg/dL
   101 mEq/L
   138 mEq/L
   28.4 %
   4.4 K/uL
                             [**2130-4-24**]  10:44 PM
                             [**2130-4-25**]  04:31 AM
                             [**2130-4-25**]  08:26 AM
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
                             [**2130-4-28**]  02:40 AM
                             [**2130-4-28**]  09:57 PM
                                  [**2130-4-29**] AM
   WBC
   2.2
   2.5
   3.8
   4.4
   2.3
   Hct
   28.2
   26.6
   28.2
   28.4
   28.2
   Plt
   57
   67
   87
   110
   101
   Cr
   0.9
   0.8
   0.9
   1.0
   1.0
   TCO2
   32
   30
   Glucose
   97
   131
   117
   185
   Other labs: PT / PTT / INR:16.0/39.0/1.4, ALT / AST:24/56, Alk Phos / T
   Bili:192/1.1, Differential-Neuts:82.9 %, Band:0.0 %, Lymph:10.4 %,
   Mono:3.5 %, Eos:2.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL,
   LDH:447 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Pla
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   * Dyspnea / Multifocal Pneumonia: Patient with increased O2
   requirements, requiring BiPAP intermittently  (pre-treated with ativan
   and zofran)
   - will use BiPAP as tolerated
   - on doxycycline, clinda, primaquine for tularemia and PCP empirically,
   awaiting tularemia serologies and PCP from sputum
   - repeat sputum cx until obtain a good sample
   - continue empiric broad spectrum abx w/ vancomycin and amikacin as
   well
   - continue current vanco dosing x 3 doses (1500mg daily) and recheck
   level after third dose
   - some component of volume overload, goal I/O negative; continue lasix
   drip at 8mg/hour and continue until BP drops
   - solumedrol 125mg IV q8hrs given x 3 doses overnight (for possible
   post infectious BOOP); then will decrease to 60mg [**Hospital1 **]
   - fluconazole 200mg PO daily given empirically, started [**2130-4-28**]
   - f/u ID recs
   - continue to treat supportively, patient is DNI
   - family member called late night on [**4-28**] with information that the
   patient was exposed to a "sick cat" prior to the onset of her illness,
   d/w ID the significance of this
   * Altered mental status: waxes and wanes, in general is AOx 3 and
   appropriate but occasionally drowsy. [**Month (only) 60**] benefit from weaning steroids,
   treating hypoxia.
   - Continue lactulose, patient occasionally refuses but will continue to
   encourage her
   - Limit sedating meds, reorient frequently
   - Continue lactulose
   - Continue citalopram
   * Autoimmune hepatitis:
   - continue  rifaximin, lactulose and ursodiol, hold azathioprine given
   infection
   * Leukopenia - improving
   Probably due to medication effect (eg azathioprine) or current
   infection.
   * Asthma
   -Continue inhalers
   -systemic steroids as above
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-4-27**] 06:34 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-04-30 08:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2130-4-29**] 02:48 PM
 INVASIVE VENTILATION - START [**2130-4-29**] 09:00 PM for
 ARTERIAL LINE - START [**2130-4-29**] 11:00 PM
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-29**] 08:00 AM
   Amikacin - [**2130-4-29**] 10:09 PM
   Clindamycin - [**2130-4-30**] 04:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-4-29**] 12:00 PM
   Lorazepam (Ativan) - [**2130-4-29**] 07:45 PM
   Haloperidol (Haldol) - [**2130-4-29**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-4-30**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 90 (90 - 108) bpm
   BP: 94/48(63) {87/48(61) - 107/57(73)} mmHg
   RR: 20 (20 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,140 mL
                                                                    313 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                    860 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    350 mL
   Urine:
                                                                  1,630 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 648 (648 - 748) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 92%
   ABG: 7.48/45/77/30/8
   Ve: 9.1 L/min
   PaO2 / FiO2: 128
   Physical Examination
   General Appearance: Well nourished, intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+  (increased over the last several
   days)
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Sedated, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   129 K/uL
   182 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.4 mEq/L
   33 mg/dL
   101 mEq/L
   140 mEq/L
   27.1 %
   3.6 K/uL
        [image002.jpg]
                             [**2130-4-26**]  02:52 AM
                             [**2130-4-27**]  04:50 AM
                             [**2130-4-28**]  02:40 AM
                             [**2130-4-28**]  09:57 PM
                             [**2130-4-29**]  04:58 AM
                             [**2130-4-29**]  11:20 PM
                             [**2130-4-30**]  12:46 AM
                             [**2130-4-30**]  03:51 AM
                             [**2130-4-30**]  04:04 AM
                             [**2130-4-30**]  06:14 AM
   WBC
   2.5
   3.8
   4.4
   2.9
   3.6
   Hct
   26.6
   28.2
   28.4
   28.2
   27.1
   Plt
   67
   87
   110
   101
   129
   Cr
   0.8
   0.9
   1.0
   1.0
   1.0
   1.2
   TCO2
   34
   34
   34
   34
   Glucose
   131
   117
   185
   158
   182
   Other labs: PT / PTT / INR:18.3/34.3/1.7, ALT / AST:20/37, Alk Phos / T
   Bili:167/1.0, Differential-Neuts:85.9 %, Band:0.0 %, Lymph:7.7 %,
   Mono:5.8 %, Eos:0.3 %, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL,
   LDH:449 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna, several days of worsening resp status with
   change in code status and subsequent reversal of code status and
   intubation on [**4-29**].
   > Multifocal Pneumonia: CT scan with diffuse disease now  intubated.
   Unclear primary cause.
   - Bronchoscopy today for airway inspection and sampling
   - Continue vancomycin, amikacin and doxycycline per ID recommendations
   - F/U sputum culture, PCP, [**Name Initial (NameIs) **] (unable to get bronchoscopy at this
   point in the absence of intubation at this point and patient is DNI)
   - Pending studies include fungal antigens, legionella urinary antigen,
   tularemia and hantavirus serologies.
   - Check amikacin dose prior to 2nd dose, goal trough <4
   - Continue Clinda/ Primaquine will stop if neg PCP on induced sputum.
   - ID recommendations appreciated
   > Hypoxemic Resp failure: Probably multifactorial with multifocal pna,
   bronchospasm and fluid overload.  . Think PE, coronary ischemia less
   likelAppears like volume playing a role now (based on CXR appearance).
   Could this be post infectious COP (seems unlikely but given grim
   prognosis reasonable to trial steroids [**4-28**]) and anti-fungal coverage-
   Treat pna as above. Intubated on [**4-29**] with high PEEP requirements
   (likely in part [**12-26**] chest wall and abdominal obesity), can not put in
   esoph balloon in setting of  varices (no obvious ascites on US).
   - Continue bronchodilators
   - balance net neg
   - Increase PEEP (unfortunately not able to tolerate
   - Is very difficult set of findings with some improvement seen in
   radiograph but slow to improve oxygenation
there is some evidence of
   decrease in CO2 across time which may argue for increased effective
   ventilation.
   -The unifying diagnosis, still remains to be defined, but an organizing
   pneumonia is certainly leading diagnosis.
   -Will pursue repeat CT following PEEP to evaluate extent of edema
   change and consider role of consolidation and organized pneumonia vs.
   edema
   -Continue steroids at current doses
   > Autoimmune hepatitis: now with likely hepatic encephalopathy
   - cont rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Cont spironolactone
   - Hepatology recommendations appreciated
   - minimize sedation
   > Leukopenia: stable, but interestingly with no significant improvement
   on steroids, ? HIV or now new toxic medications vs septic suppression
   of marrow.   Probably due to medication effect (eg azathioprine) or
   current infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
   - Would check HIV viral load
   - Check parvo virus
    > Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
   >Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-4-27**] 06:34 PM
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-4-29**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-05-01 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2130-4-30**] 01:45 PM
   - PICC in place per radiology
   - amikacin level okay per ID, no changes to Abx
   - Gave 40 IV lasix x 1 for I/O even goal
   - CD4, HIV VL pending for leukopenia workup
   - bronchoscopy
   - CT chest repeated that showed some improvement in the density of
   opacifications.
   - restarted steroids
   - vent settings: 15 PEEP, FiO2 70%
   - d/c spironolactone given ARF in late afternoon; urine lytes Feurea
   15.2, no eos
   - UOP dropped overnight, bolused 1 L
   - RNs concerned about sedation
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-30**] 08:00 AM
   Amikacin - [**2130-4-30**] 10:00 PM
   Clindamycin - [**2130-5-1**] 04:30 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-4-30**] 08:00 AM
   Furosemide (Lasix) - [**2130-4-30**] 06:30 PM
   Heparin Sodium (Prophylaxis) - [**2130-4-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-1**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 84 (77 - 89) bpm
   BP: 116/60(78) {95/48(65) - 118/72(84)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,000 mL
                                                                    345 mL
   PO:
             TF:
   IVF:
                                                                  2,400 mL
                                                                    345 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    535 mL
   Urine:
                                                                    650 mL
                                                                    435 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,750 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 37 cmH2O
   SpO2: 94%
   ABG: 7.44/46/125/30/6
   Ve: 7.1 L/min
   PaO2 / FiO2: 179
   Physical Examination
   GEN: intubated and sedated
   HEENT: EOMI, PERRL, ATRUAMTIC, NORMOCEPHALIC
   CARD: RRR, NO M/R/G
   PULM: DIFFUSE RONCHI BILATERALLY
   ABD: OBESE, MOD DISTENSION, NO TENDERNESS, BS+
   EXT: 2+ PITTING EDEMA TO KNEES BILATERALLY SYMMETRIC
   NEURO: intubated and sedated
   Labs / Radiology
   105 K/uL
   8.6 g/dL
   169 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   48 mg/dL
   103 mEq/L
   140 mEq/L
   25.9 %
   2.2 K/uL
        [image002.jpg]
                             [**2130-4-30**]  12:46 AM
                             [**2130-4-30**]  03:51 AM
                             [**2130-4-30**]  04:04 AM
                             [**2130-4-30**]  06:14 AM
                             [**2130-4-30**]  02:25 PM
                             [**2130-4-30**]  06:05 PM
                             [**2130-4-30**]  07:45 PM
                             [**2130-5-1**]  12:34 AM
                             [**2130-5-1**]  03:43 AM
                             [**2130-5-1**]  04:05 AM
   WBC
   3.6
   2.2
   Hct
   27.1
   25.9
   Plt
   129
   105
   Cr
   1.2
   1.4
   1.4
   TCO2
   34
   34
   34
   34
   36
   31
   32
   Glucose
   182
   149
   169
   Other labs: PT / PTT / INR:20.6/35.5/1.9, ALT / AST:17/31, Alk Phos / T
   Bili:148/0.9, Differential-Neuts:85.9 %, Band:0.0 %, Lymph:7.7 %,
   Mono:5.8 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L, Albumin:2.4 g/dL,
   LDH:384 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   * Dyspnea / Multifocal Pneumonia
 Intubated due to increasing
   respiratory distress. Consider ARDS vs infection
   - serial ABGs
   - f/u BAL results
   - on doxycycline, clinda, primaquine for tularemia and PCP empirically,
   awaiting tularemia serologies and PCP from sputum
   - d/c fluconazole today as no longer indicated
   - continue empiric broad spectrum abx w/ vancomycin and amikacin as
   well (will hold dose tonight)
   - appreciate ID recs
   - I/O even for today to maximize pulmonary status
   - d/c steroids
   * Hypoxic Respiratory Failure: likely [**12-26**] multifocal pneumonia
   - lower Vt to 6 cc/kg
   - continue antibiotics
   .
   * ARF: Cr 1.4 today from 1.0
   - bolus for UOP
   * Sedation:
   - attempt to wean sedation by 20% to avoid liver/kidney insult
   * Altered mental status: now intubated and sedated; likely [**12-26**] hypoxia,
   steroids
   - Continue lactulose
   - Continue citalopram
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect
   - send HIV VL, CD4 today
   - heme consult today for leukopenia
   - d/c fluconazole for side effect of leukopenia
   - d/c ursodiol for side effect of leukopenia
   * Asthma
   -Continue inhalers
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-4-29**] 11:00 PM
   Prophylaxis:
   DVT: Heparin SQ, boots
   Stress ulcer: PPI
   VAP:  HOB elevation, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2130-05-01 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2130-4-30**] 01:45 PM: no secretions
   Some improvement in O2 needs
   Has been on steroids x 4 days. Diuresed though now urine output falling
   and creatinine up.
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-4-30**] 08:00 AM
   Amikacin - [**2130-4-30**] 10:00 PM
   Clindamycin - [**2130-5-1**] 04:30 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 9 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-4-30**] 08:00 AM
   Furosemide (Lasix) - [**2130-4-30**] 06:30 PM
   Heparin Sodium (Prophylaxis) - [**2130-4-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-1**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 85 (77 - 88) bpm
   BP: 124/64(84) {95/48(65) - 124/72(84)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,000 mL
                                                                    412 mL
   PO:
             TF:
   IVF:
                                                                  2,400 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                    535 mL
   Urine:
                                                                    650 mL
                                                                    435 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  1,750 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 38 cmH2O
   SpO2: 96%
   ABG: 7.44/46/125/30/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 179
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   105 K/uL
   169 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   48 mg/dL
   103 mEq/L
   140 mEq/L
   25.9 %
   2.2 K/uL
        [image002.jpg]
                             [**2130-4-30**]  12:46 AM
                             [**2130-4-30**]  03:51 AM
                             [**2130-4-30**]  04:04 AM
                             [**2130-4-30**]  06:14 AM
                             [**2130-4-30**]  02:25 PM
                             [**2130-4-30**]  06:05 PM
                             [**2130-4-30**]  07:45 PM
                             [**2130-5-1**]  12:34 AM
                             [**2130-5-1**]  03:43 AM
                             [**2130-5-1**]  04:05 AM
   WBC
   3.6
   2.2
   Hct
   27.1
   25.9
   Plt
   129
   105
   Cr
   1.2
   1.4
   1.4
   TCO2
   34
   34
   34
   34
   36
   31
   32
   Glucose
   182
   149
   169
   Other labs: PT / PTT / INR:20.6/35.5/1.9, ALT / AST:17/31, Alk Phos / T
   Bili:148/0.9, Differential-Neuts:85.9 %, Band:0.0 %, Lymph:7.7 %,
   Mono:5.8 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L, Albumin:2.4 g/dL,
   LDH:384 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
[**2130-4-30**] 1:43 pm BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2130-4-30**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   CT Chest [**4-30**]:  mutifocal bilateral infiltrates, slightly improved
   IMPRESSION:
   1. Extensive patchy air space opacification scattered throughout both
   lungs
   is similar in distribution and extent to CT performed on [**2130-4-26**],
   but
   less dense in most locstions, compatible with some improvement. The
   differential diagnosis for this appearance is broad but includes
   resolving
   multifocal pneumonia or edema.
   2. Cirrhosis with splenomegaly and ascites.
   CXR: [**5-1**]:   ETT in good position. Subclavian PICC, Multifocal opacities
   unchanged
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna with progression into ARDS vs inflammatory
   lung disease, several days of worsening resp status with change in code
   status and subsequent intubation on [**4-29**].
   > Multifocal Pneumonia/ARDS: CT scan with diffuse disease now
   intubated.  Unclear primary cause as BAL was essentialy clear (see
   below)
   - Continue vancomycin, amikacin and doxycycline per ID recommendations
   - F/U BAL sample from [**4-30**]
   - F/u pending serologies
   - Continue Clinda/ Primaquine will stop if neg PCP on BAL from [**4-30**]
   - Stop fluconazole [**5-1**].
   - ID recommendations appreciated
   > Hypoxemic Resp failure: Probably multifactorial with multifocal pna,
   bronchospasm and fluid overload. Interestingly the bromnchscopsy on [**4-30**]
   revealed no secreiotns in the proxial or distal airways (on lavage).
   This could well be a infection that has now progressed into ARDS. This
   raises the possibility if an inflammatory lung condition: post
   infectious COP (although no signif improvement with steroids, vs AIP vs
   a very atypical presentation of pulm lymphoma.  Cont supportive low Vt
   vent strategy
   - Continue bronchodilators
   - balance net neg
   - Higher PEEP protocol with low Vt strategy (will go down to 6 cc/kg).
   -Stop steroids as no inflammatory process driving this (BAL fluid c/w
   high PMN)
   > Autoimmune hepatitis: now with likely hepatic encephalopathy
   - cont rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Cont spironolactone
   - Hepatology recommendations appreciated
   - minimize sedation
   > Leukopenia: stable, but interestingly with no significant improvement
   on steroids, ? HIV or now new toxic medications vs septic suppression
   of marrow.   Probably due to medication effect (eg azathioprine) or
   current infection. Not currently neutropenic.
   - Follow CBC daily
   - Holding azathioprine as above
   - Would check HIV viral load
   - Check parvo virus
     > Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
   >Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
   Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-4-29**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB, daily wake up, mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 42 minutes
   Patient is critically ill

2130-05-02 07:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > decreased PEEP on Vent
   > heme consult
   > Stopped fluconazole, Clinda/primaquine
   > Changed to Meropenem from amikacin
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Amikacin - [**2130-4-30**] 10:00 PM
   Vancomycin - [**2130-5-1**] 10:30 AM
   Clindamycin - [**2130-5-1**] 01:00 PM
   Aztreonam - [**2130-5-2**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-1**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-2**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 90 (80 - 97) bpm
   BP: 64/52(57) {64/48(54) - 128/64(327)} mmHg
   RR: 24 (16 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,754 mL
                                                                  1,006 mL
   PO:
             TF:
                                                                     45 mL
                                                                    224 mL
   IVF:
                                                                  2,039 mL
                                                                    751 mL
   Blood products:
   Total out:
                                                                  1,626 mL
                                                                    198 mL
   Urine:
                                                                    926 mL
                                                                    198 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,128 mL
                                                                    808 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 92%
   ABG: 7.40/50/86/29/4
   Ve: 8.1 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Not assessed, Sedated, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   105 K/uL
   113 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.3 mEq/L
   68 mg/dL
   105 mEq/L
   141 mEq/L
   30.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2130-4-30**]  07:45 PM
                             [**2130-5-1**]  12:34 AM
                             [**2130-5-1**]  03:43 AM
                             [**2130-5-1**]  04:05 AM
                             [**2130-5-1**]  10:01 AM
                             [**2130-5-1**]  12:26 PM
                             [**2130-5-1**]  02:50 PM
                             [**2130-5-1**]  05:56 PM
                             [**2130-5-2**]  03:28 AM
                             [**2130-5-2**]  07:05 AM
   WBC
   2.2
   6.6
   Hct
   25.9
   30.1
   Plt
   105
   105
   Cr
   1.4
   1.4
   1.6
   TCO2
   31
   32
   35
   34
   31
   33
   32
   Glucose
   149
   169
   113
   Other labs: PT / PTT / INR:22.5/36.0/2.2, ALT / AST:17/29, Alk Phos / T
   Bili:141/1.0, Differential-Neuts:85.9 %, Band:0.0 %, Lymph:7.7 %,
   Mono:5.8 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL,
   LDH:326 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   CXR [**4-/2110**]:: cont b/l patchy opacities, ETT in good position.
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna with progression into ARDS vs inflammatory
   lung disease, several days of worsening resp status with change in code
   status and subsequent intubation on [**4-29**].
   > Multifocal Pneumonia/ARDS: CT scan with diffuse disease now
   intubated.  Unclear primary cause as BAL was essentialy clear (see
   below)
   - Continue vancomycin, and doxycycline per ID recommendations. Amikacin
   changed to  to aztreonam
   - F/u pending serologies
   - Stopped  Clinda/ Primaquine ( neg PCP on BAL from [**4-30**])
   - Stop fluconazole [**5-1**].
   - ID recommendations appreciated
   > Hypoxemic Resp failure: Probably multifactorial with multifocal pna,
   bronchospasm and fluid overload. Interestingly the bromnchscopsy on [**4-30**]
   revealed no secreiotns in the proxial or distal airways (on lavage).
   This could well be a infection that has now progressed into ARDS. This
   raises the possibility if an inflammatory lung condition: post
   infectious COP (although no signif improvement with steroids, vs AIP vs
   a very atypical presentation of pulm lymphoma.  Cont supportive low Vt
   vent strategy (plateaus OK at 27 and no auto PEEP)
   - Continue bronchodilators
   - balance net neg
   - Higher PEEP protocol with low Vt strategy (6 cc/kg).
   -Stopped steroids [**5-1**] as no inflammatory process driving this (BAL
   fluid c/w high PMN)
   - Versed , Fent 150, cont slow wean
    > Renal failure: amikcain toxicit vs volume shifts, will check urine
   lytes and renal U/S
   - cont volume support
   - urine lytes and eos, UA
   - renal U/S
   > Autoimmune hepatitis: now with likely hepatic encephalopathy
   - cont rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Cont spironolactone
   - Hepatology recommendations appreciated
   - minimize sedation
   > Leukopenia: stable, but interestingly with no significant improvement
   on steroids, ? HIV or now new toxic medications vs septic suppression
   of marrow.   Probably due to medication effect (eg azathioprine) or
   current infection.  She did get one dose of GCSF, but stopped for
   concern of splenic rupture in patients with splenomegaly.
   - Follow CBC daily
   - Holding azathioprine as above
   - F/u parvo virus
   - Appreciate heme input
   > Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
    >Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
    Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-1**] 09:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-4-29**] 11:00 PM, will need new A line (trial
   arterial)
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2130-05-02 11:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -med administration error, given dilantin 200mg po x 1- nursing
   incident report written
   -BAL negative for PCP, [**Name10 (NameIs) 9271**] and primaquine discontinued
   -fluc and steroids discontinued
   -given ARF amikacin was switched to aztreonam
   -heme onc consult initially stated start GCSF but later said this may
   increase risk of splenic rupture given splenomegaly, await final recs
   in a.m., added on quantitative Ig levels for a.m. for consideration of
   using IVIG
   -tube feeds started along with RISS
   -UOP around 43cc/hr
   -sedation weaned from fentanyl 300 to 250 and versed from 9 to 7
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Amikacin - [**2130-4-30**] 10:00 PM
   Vancomycin - [**2130-5-1**] 10:30 AM
   Clindamycin - [**2130-5-1**] 01:00 PM
   Aztreonam - [**2130-5-2**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-2**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-2**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 94 (80 - 97) bpm
   BP: 101/48(64) {64/48(54) - 116/62(327)} mmHg
   RR: 24 (22 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,754 mL
                                                                  1,298 mL
   PO:
             TF:
                                                                     45 mL
                                                                    364 mL
   IVF:
                                                                  2,039 mL
                                                                    814 mL
   Blood products:
   Total out:
                                                                  1,626 mL
                                                                    303 mL
   Urine:
                                                                    926 mL
                                                                    303 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  1,128 mL
                                                                    995 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.40/50/86/29/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 143
   Physical Examination
   GEN: Intubated, sedated
   HEENT: PERRL
   CARD: RRR, no m/r/g
   PULM: bilat scattered wheezes
   ABD: soft, BS+, obese
   EXT: anasarca
   Labs / Radiology
   105 K/uL
   9.7 g/dL
   113 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.3 mEq/L
   68 mg/dL
   105 mEq/L
   141 mEq/L
   30.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2130-4-30**]  07:45 PM
                             [**2130-5-1**]  12:34 AM
                             [**2130-5-1**]  03:43 AM
                             [**2130-5-1**]  04:05 AM
                             [**2130-5-1**]  10:01 AM
                             [**2130-5-1**]  12:26 PM
                             [**2130-5-1**]  02:50 PM
                             [**2130-5-1**]  05:56 PM
                             [**2130-5-2**]  03:28 AM
                             [**2130-5-2**]  07:05 AM
   WBC
   2.2
   6.6
   Hct
   25.9
   30.1
   Plt
   105
   105
   Cr
   1.4
   1.4
   1.6
   TCO2
   31
   32
   35
   34
   31
   33
   32
   Glucose
   149
   169
   113
   Other labs: PT / PTT / INR:22.5/36.0/2.2, ALT / AST:17/29, Alk Phos / T
   Bili:141/1.0, Differential-Neuts:85.9 %, Band:0.0 %, Lymph:7.7 %,
   Mono:5.8 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL,
   LDH:326 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   * Dyspnea / Multifocal Pneumonia
   -continue ARDSnet ventilation
   -place A line
   -attempt to wean vent settings
   -6cc/kg TV on AC ventilation
   -conitnue vanc and aztreonam, dose vanc by level
   * ARF: Cr 1.6 up from baseline of 1.0
   -send urine lytes, eos, urinalysis with sediment
   -monitor urine output
   -add on a peripheral CBC differential to look for eosinophilia
   * Sedation:
   -attempt to wean sedation by 20% to avoid accumulation
   -continue lactulose
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect
   -d/c HIV VL and CD4
   -hold GCSF
   * Asthma
   -Continue inhalers
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-1**] 09:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-4-29**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-03 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Renal: Cr increased to 1.6, urine studies consistent with pre-renal,
   given 1 L NS to assess for improvement. UOP mostly low, but improved
   sightly with fluid. Urine eosinophils neg. Renal ultrasound neg for
   hydronephrosis.  UOP remained low later in day and BP decreased, gave
   additional fluid to complete fluid challenge then KVO.
   -Heme/Onc: no additional doses of neupogen, inc in wbc likely related
   to neupogen.  All Ig levels high, no need for IVIg at this time. Asked
   for repeat smear to be made.
   -ID: continued on aztreonam/vanc/doxycycline.  If clinically worsens or
   B-glucan comes back positive, consider restarting clinda/primaquine
   -RN able to get A-line working, had multiple attempts at resiting
   line.  Unreliable function overnight
   -Sed decreased slightly, but HR started to increase.
   -AM Hematocrit came back at 22.7, repeat pending. Stool trace guaiac
   positive
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Amikacin - [**2130-4-30**] 10:00 PM
   Vancomycin - [**2130-5-1**] 10:30 AM
   Clindamycin - [**2130-5-1**] 01:00 PM
   Aztreonam - [**2130-5-3**] 04:21 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-3**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 104 (93 - 107) bpm
   BP: 93/55(68) {81/39(55) - 126/67(86)} mmHg
   RR: 24 (22 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,776 mL
                                                                    645 mL
   PO:
             TF:
                                                                  1,117 mL
                                                                    406 mL
   IVF:
                                                                  3,150 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                  1,501 mL
                                                                    285 mL
   Urine:
                                                                    801 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,275 mL
                                                                    360 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.35/51/104/29/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   7.1 g/dL
   171 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.7 mEq/L
   73 mg/dL
   113 mEq/L
   147 mEq/L
   22.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2130-5-1**]  04:05 AM
                             [**2130-5-1**]  10:01 AM
                             [**2130-5-1**]  12:26 PM
                             [**2130-5-1**]  02:50 PM
                             [**2130-5-1**]  05:56 PM
                             [**2130-5-2**]  03:28 AM
                             [**2130-5-2**]  07:05 AM
                             [**2130-5-2**]  02:43 PM
                             [**2130-5-3**]  03:33 AM
                             [**2130-5-3**]  03:47 AM
   WBC
   6.6
   10.2
   Hct
   30.1
   22.7
   Plt
   105
   93
   Cr
   1.6
   1.6
   TCO2
   32
   35
   34
   31
   33
   32
   28
   29
   Glucose
   113
   171
   Other labs: PT / PTT / INR:20.8/35.8/2.0, ALT / AST:27/41, Alk Phos / T
   Bili:156/0.8, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
   -continue ARDSnet ventilation
   -place A line
   -attempt to wean vent settings
   -6cc/kg TV on AC ventilation
   -conitnue vanc and aztreonam, dose vanc by level
   -continue doxycycline
   -send blastomycosis and coccidiomycosis, f/u blood cultures
   -repeat glucan and galactomannan
   -repeat Bronch / BAL to help r/o PCP [**Name Initial (PRE) **] + beta glucan
   * ARF: Cr 1.6 stable from [**5-2**].
   -UOP has been improving
   -send urine lytes, eos, urinalysis with sediment
   -monitor urine output, goal I/O even
   -add on a peripheral CBC differential to look for eosinophilia
   * Sedation:
   -attempt to wean sedation by 20% to avoid accumulation
   -continue lactulose
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect
   -hold on GCSF
   .
   * Hypernatremia: add free water flushes
   -f/u p.m. lytes
   .
   * Asthma
   -Continue inhalers
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-3**] 05:18 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-4-29**] 11:00 PM
   Prophylaxis:
   DVT: sc heparin, boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-03 08:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Increasing Cr (1.6)
   > Axillary Art  line and left radial art line attempt
   > decreasing PEEP
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Amikacin - [**2130-4-30**] 10:00 PM
   Vancomycin - [**2130-5-1**] 10:30 AM
   Clindamycin - [**2130-5-1**] 01:00 PM
   Aztreonam - [**2130-5-3**] 04:21 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-3**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 109 (94 - 109) bpm
   BP: 89/57(70) {65/39(52) - 126/67(86)} mmHg
   RR: 23 (22 - 25) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,776 mL
                                                                    752 mL
   PO:
             TF:
                                                                  1,117 mL
                                                                    490 mL
   IVF:
                                                                  3,150 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  1,501 mL
                                                                    285 mL
   Urine:
                                                                    801 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,275 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.35/51/104/29/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   93 K/uL
   171 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.7 mEq/L
   73 mg/dL
   113 mEq/L
   147 mEq/L
   26.1 %
   10.2 K/uL
        [image002.jpg]
                             [**2130-5-1**]  10:01 AM
                             [**2130-5-1**]  12:26 PM
                             [**2130-5-1**]  02:50 PM
                             [**2130-5-1**]  05:56 PM
                             [**2130-5-2**]  03:28 AM
                             [**2130-5-2**]  07:05 AM
                             [**2130-5-2**]  02:43 PM
                             [**2130-5-3**]  03:33 AM
                             [**2130-5-3**]  03:47 AM
                             [**2130-5-3**]  06:14 AM
   WBC
   6.6
   10.2
   Hct
   30.1
   22.7
   26.1
   Plt
   105
   93
   Cr
   1.6
   1.6
   TCO2
   35
   34
   31
   33
   32
   28
   29
   Glucose
   113
   171
   Other labs: PT / PTT / INR:20.8/35.8/2.0, ALT / AST:27/41, Alk Phos / T
   Bili:156/0.8, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:8.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   CXR [**2130-5-3**]:  ETT in good position, increasing interstitial edema and
   alveolar opacities.
   Renal U/S [**5-2**]: no evidence of obstruction
   T LYMPHOCYTE SUBSET
                                     WBC
                                    Lymph
                                   Abs [**Last Name (un) **]
                                    CD3%
                                   Abs CD3
                                    CD4%
                                   Abs CD4
                                    CD8%
                                   Abs CD8
                                   CD4/CD8
   [1][**2130-4-30**] 02:11PM
                                    3.6*
                                     8*
                                     288
                                     74
                                    212*
                                     62
                                    178*
                                     11
                                     33*
                                    5.5*
   [**2130-4-29**]
                                  B-GLUCAN
----
Fungitell (tm) Assay for (1,3)-B-D-Glucans
Results                                 Reference Ranges
-------                                 ----------------
125 pg/mL                               Negative       Less than 60 pg/mL
                                        Indeterminate  60 - 79 pg/mL
            Positive       Greater than or equal to
                                                       80 pg/mL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna with progression into ARDS vs inflammatory
   lung disease, several days of worsening resp status with change in code
   status and subsequent intubation on [**4-29**].
   > Multifocal Pneumonia/ARDS: CT scan with diffuse disease now
   intubated.  Unclear primary cause as BAL was essentialy clear (see
   below), however 1,3 glucan is positive (125) which is potentially
   suggestive of fungal vs pneumocystis however the BAL was negative.
   -  check blasto and coccido (histo urine Ag neg)
   - recheck 1,3 glucan
   - Continue vancomycin, and doxycycline per ID recommendations. Amikacin
   changed to  to aztreonam
   - F/u pending serologies
   - Stopped  Clinda/ Primaquine ( neg PCP on BAL from [**4-30**]),
   - Stop fluconazole [**5-1**].
   - ID recommendations appreciated
   > Hypoxemic Resp failure: Probably multifactorial with multifocal pna,
   bronchospasm and fluid overload. Interestingly the bromnchscopsy on [**4-30**]
   revealed no secreiotns in the proxial or distal airways (on lavage).
   This could well be a infection that has now progressed into ARDS. This
   raises the possibility if an inflammatory lung condition: post
   infectious COP (although no signif improvement with steroids, vs AIP vs
   a very atypical presentation of pulm lymphoma.  Cont supportive low Vt
   vent strategy (plateaus OK at 27 [**5-3**])
   - Continue bronchodilators
   - balance net neg when Cr stabilizes
   - Higher PEEP protocol with low Vt strategy (6 cc/kg).
   -Stopped steroids [**5-1**] as no inflammatory process driving this (BAL
   fluid c/w high PMN)
   - Versed , Fent 150, cont slow wean
     > Renal failure: amikcain toxicit vs volume shifts, urine lytes
   consistent with pre-renal (Cr and urine improved with fluid challenge).
   Will let her auto-regualte, unable to diuresed at this point.  No
   evidence of urine eos.
   - cont volume support
   > Autoimmune hepatitis: now with likely hepatic encephalopathy
   - cont rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Cont spironolactone
   - Hepatology recommendations appreciated
   - minimize sedation
   > Leukopenia: stable, but interestingly with no significant improvement
   on steroids, ? HIV or now new toxic medications vs septic suppression
   of marrow.   Probably due to medication effect (eg azathioprine) or
   current infection.  She did get one dose of GCSF, but stopped for
   concern of splenic rupture in patients with splenomegaly.  She has had
   a vigorous response.in her WBC.
   - Follow CBC daily
   - Holding azathioprine as above
   - Appreciate heme input
   > Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
    >Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
    Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-3**] 05:18 AM 60 mL/hour, increase free
   water for hypernatremia.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-4-29**] 11:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);

2130-05-04 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2130-5-3**] 11:45 AM
 ARTERIAL LINE - STOP [**2130-5-3**] 06:01 PM
   - Attempted a-line placement again but unsuccesful, a-line removed,
   going by O2 sats per attdg
   - 7 PM lytes - hypernatremia of 148 and Cr now 1.3, increased free
   water flushes to 200 q6 hours
   - weaned sedation
   - ID recs: consider restarting empiric PCP treatment, if pt
   decompensates, would start voriconazole, send coccidio/blasto
   - bronched with studies pending
   - FiO2 decreased to 50% ---> 96% O2 sat
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Clindamycin - [**2130-5-1**] 01:00 PM
   Vancomycin - [**2130-5-3**] 09:35 AM
   Aztreonam - [**2130-5-4**] 04:32 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-4**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 88 (88 - 109) bpm
   BP: 104/47(61) {94/38(52) - 118/96(101)} mmHg
   RR: 24 (23 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,796 mL
                                                                    797 mL
   PO:
             TF:
                                                                  1,447 mL
                                                                    356 mL
   IVF:
                                                                    919 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    480 mL
   Urine:
                                                                  1,425 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    871 mL
                                                                    317 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.46/48/61/31/8
   Ve: 9.9 L/min
   PaO2 / FiO2: 122
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   79 K/uL
   7.9 g/dL
   188 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.7 mEq/L
   63 mg/dL
   113 mEq/L
   148 mEq/L
   24.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2130-5-1**]  05:56 PM
                             [**2130-5-2**]  03:28 AM
                             [**2130-5-2**]  07:05 AM
                             [**2130-5-2**]  02:43 PM
                             [**2130-5-3**]  03:33 AM
                             [**2130-5-3**]  03:47 AM
                             [**2130-5-3**]  06:14 AM
                             [**2130-5-3**]  05:50 PM
                             [**2130-5-4**]  12:07 AM
                             [**2130-5-4**]  03:38 AM
   WBC
   6.6
   10.2
   6.3
   Hct
   30.1
   22.7
   26.1
   24.5
   Plt
   105
   93
   79
   Cr
   1.6
   1.6
   1.3
   1.2
   TCO2
   33
   32
   28
   29
   35
   Glucose
   113
   171
   178
   188
   Other labs: PT / PTT / INR:19.5/38.0/1.8, ALT / AST:31/42, Alk Phos / T
   Bili:171/0.7, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:8.1 mg/dL, Mg++:2.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
   -continue ARDSnet ventilation
   -place A line
   -attempt to wean vent settings
   -6cc/kg TV on AC ventilation
   -conitnue vanc and aztreonam, dose vanc by level
   -continue doxycycline
   -send blastomycosis and coccidiomycosis, f/u blood cultures
   -repeat glucan and galactomannan
   -repeat Bronch / BAL to help r/o PCP [**Name Initial (PRE) **] + beta glucan
   * ARF: Cr 1.6 stable from [**5-2**].
   -UOP has been improving
   -send urine lytes, eos, urinalysis with sediment
   -monitor urine output, goal I/O even
   -add on a peripheral CBC differential to look for eosinophilia
   * Sedation:
   -attempt to wean sedation by 20% to avoid accumulation
   -continue lactulose
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect
   -hold on GCSF
   .
   * Hypernatremia: add free water flushes
   -f/u p.m. lytes
   .
   * Asthma
   -Continue inhalers
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-04 07:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2130-5-3**] 11:45 AM: thick secretions in the large
   airways
 ARTERIAL LINE - STOP [**2130-5-3**] 06:01 PM
   O2 needs improving
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Clindamycin - [**2130-5-1**] 01:00 PM
   Vancomycin - [**2130-5-3**] 09:35 AM
   Aztreonam - [**2130-5-4**] 04:32 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-4**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 85 (85 - 109) bpm
   BP: 104/47(61) {94/38(52) - 118/96(101)} mmHg
   RR: 24 (23 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,797 mL
                                                                  1,274 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                    475 mL
   IVF:
                                                                    919 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    780 mL
   Urine:
                                                                  1,425 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    500 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                    872 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.46/48/61/31/8
   Ve: 8.5 L/min
   PaO2 / FiO2: 122
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   79 K/uL
   188 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.7 mEq/L
   63 mg/dL
   113 mEq/L
   148 mEq/L
   24.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2130-5-1**]  05:56 PM
                             [**2130-5-2**]  03:28 AM
                             [**2130-5-2**]  07:05 AM
                             [**2130-5-2**]  02:43 PM
                             [**2130-5-3**]  03:33 AM
                             [**2130-5-3**]  03:47 AM
                             [**2130-5-3**]  06:14 AM
                             [**2130-5-3**]  05:50 PM
                             [**2130-5-4**]  12:07 AM
                             [**2130-5-4**]  03:38 AM
   WBC
   6.6
   10.2
   6.3
   Hct
   30.1
   22.7
   26.1
   24.5
   Plt
   105
   93
   79
   Cr
   1.6
   1.6
   1.3
   1.2
   TCO2
   33
   32
   28
   29
   35
   Glucose
   113
   171
   178
   188
   Other labs: PT / PTT / INR:19.5/38.0/1.8, ALT / AST:31/42, Alk Phos / T
   Bili:171/0.7, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:8.1 mg/dL, Mg++:2.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna with progression into ARDS vs inflammatory
   lung disease, several days of worsening resp status with change in code
   status and subsequent intubation on [**4-29**].
   > Multifocal Pneumonia/ARDS: CT scan with diffuse disease now
   intubated.  Unclear primary cause as BAL was essentialy clear (see
   below), however 1,3 glucan is positive (125) which is potentially
   suggestive of fungal vs pneumocystis however the BAL was negative.
   Repeat BAL pending.
   -  check blasto and coccido (histo urine Ag neg)
   - recheck 1,3 glucan
   - Continue vancomycin, and doxycycline per ID recommendations. Amikacin
   changed to  to aztreonam
   - F/u pending serologies
   - Stopped  Clinda/ Primaquine ( neg PCP on BAL from [**4-30**]),
   - Stop fluconazole [**5-1**].
   - F/u BAL specimen
   - ID recommendations appreciated
    > Hypoxemic Resp failure: Probably multifactorial with multifocal pna,
   bronchospasm and fluid overload. Interestingly the bromnchscopsy on [**4-30**]
   revealed no secreiotns in the proxial or distal airways (on lavage).
   This could well be a infection that has now progressed into ARDS. This
   raises the possibility if an inflammatory lung condition: post
   infectious COP (although no signif improvement with steroids, vs AIP vs
   a very atypical presentation of pulm lymphoma.  Cont supportive low Vt
   vent strategy (plateaus OK at 27 [**5-3**])
   - Continue bronchodilators
   - balance net neg when Cr stabilizes
   - Higher PEEP protocol with low Vt strategy (6 cc/kg).
   -Stopped steroids [**5-1**] as no inflammatory process driving this (BAL
   fluid c/w high PMN)
   - Versed , Fent 50 cont slow wean
   > Renal failure: amikcain toxicit vs volume shifts, urine lytes
   consistent with pre-renal (Cr and urine improved with fluid challenge).
   Will let her auto-regualte, unable to diuresed at this point.  No
   evidence of urine eos.
   - cont volume support
    > Autoimmune hepatitis: now with likely hepatic encephalopathy
   - cont rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Cont spironolactone
   - Hepatology recommendations appreciated
   - minimize sedation
   > Leukopenia: stable, but interestingly with no significant improvement
   on steroids, ? HIV or now new toxic medications vs septic suppression
   of marrow.   Probably due to medication effect (eg azathioprine) or
   current infection.  She did get one dose of GCSF, but stopped for
   concern of splenic rupture in patients with splenomegaly.  She has had
   a vigorous response.in her WBC.
   - Follow CBC daily
   - Holding azathioprine as above
   - Appreciate heme input
   > Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
    >Asthma
   - Continue inhalers
   - Holding on further systemic steroids at this time
    Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-4**] 05:49 AM 60 mL/hour, increase
   insulin scale.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 39 minutes
   Patient is critically ill

2130-05-05 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -A line failed
   -2nd PCP from BAL negative so clinda / primaquine not restarted
   -BAL galactomannan added
   -40mg IV lasix x 2 given to acheive I/O goal
   -still hypernatremic to 149, free water flushes increased
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-4**] 09:00 PM
   Aztreonam - [**2130-5-5**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-5-4**] 08:53 AM
   Furosemide (Lasix) - [**2130-5-4**] 06:36 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-4**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-5**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 96 (89 - 108) bpm
   BP: 110/48(63) {90/36(52) - 135/66(83)} mmHg
   RR: 24 (23 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  5,005 mL
                                                                  1,138 mL
   PO:
             TF:
                                                                  1,453 mL
                                                                    426 mL
   IVF:
                                                                  1,952 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                    425 mL
   Urine:
                                                                  2,990 mL
                                                                    425 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,215 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 99%
   ABG: ///34/
   Ve: 7.9 L/min
   Physical Examination
   GEN: Intubated, sedated
   HEENT: PERRL
   CARD: RRR, no m/r/g
   PULM: bilat scattered wheezes
   ABD: soft, BS+, obese
   EXT: anasarca
   Labs / Radiology
   88 K/uL
   8.1 g/dL
   140 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   49 mg/dL
   110 mEq/L
   147 mEq/L
   26.1 %
   4.9 K/uL
        [image002.jpg]
                             [**2130-5-2**]  07:05 AM
                             [**2130-5-2**]  02:43 PM
                             [**2130-5-3**]  03:33 AM
                             [**2130-5-3**]  03:47 AM
                             [**2130-5-3**]  06:14 AM
                             [**2130-5-3**]  05:50 PM
                             [**2130-5-4**]  12:07 AM
                             [**2130-5-4**]  03:38 AM
                             [**2130-5-4**]  05:03 PM
                             [**2130-5-5**]  05:58 AM
   WBC
   10.2
   6.3
   4.9
   Hct
   22.7
   26.1
   24.5
   26.1
   Plt
   93
   79
   88
   Cr
   1.6
   1.3
   1.2
   1.0
   0.9
   TCO2
   32
   28
   29
   35
   Glucose
   171
   178
   188
   186
   140
   Other labs: PT / PTT / INR:17.1/34.3/1.5, ALT / AST:32/49, Alk Phos / T
   Bili:223/0.8, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 4714**] is a 55F with autoimmune hepatitis who presents with fever,
   cough, and dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
   -continue ARDSnet ventilation
   -attempt to place A line
   -attempt to wean vent settings
   -6cc/kg TV on AC ventilation
   -conitnue vanc and aztreonam, dose vanc by level
   -continue doxycycline
   -send blastomycosis and coccidiomycosis, f/u blood cultures
   -repeat glucan and galactomannan
   -repeat Bronch / BAL to help r/o PCP [**Name Initial (PRE) **] + beta glucan
   * ARF: Cr improved to 1.2
   -UOP has been improving
   -i/o even
   # hypernatremia: 1 L D5W
   -p.m. lytes
   * Sedation:
   -attempt to wean sedation by 20% to avoid accumulation
   -continue lactulose
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect
   -hold on GCSF
   * Asthma
   -Continue inhalers
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-5**] 05:04 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2130-05-05 07:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Attempt at arterial line unsuccessful
   > Neg PCP from BAL on [**5-3**]
   > Improving Cr.
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-4**] 09:00 PM
   Aztreonam - [**2130-5-5**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-5-4**] 08:53 AM
   Furosemide (Lasix) - [**2130-5-4**] 06:36 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-4**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-5**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 108 (89 - 108) bpm
   BP: 127/57(74) {90/36(52) - 135/66(83)} mmHg
   RR: 24 (23 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  5,005 mL
                                                                  1,207 mL
   PO:
             TF:
                                                                  1,453 mL
                                                                    476 mL
   IVF:
                                                                  1,952 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                    475 mL
   Urine:
                                                                  2,990 mL
                                                                    475 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                  1,215 mL
                                                                    732 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 98%
   ABG: ///34/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   88 K/uL
   140 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.1 mEq/L
   49 mg/dL
   110 mEq/L
   147 mEq/L
   26.1 %
   4.9 K/uL
        [image002.jpg]
                             [**2130-5-2**]  07:05 AM
                             [**2130-5-2**]  02:43 PM
                             [**2130-5-3**]  03:33 AM
                             [**2130-5-3**]  03:47 AM
                             [**2130-5-3**]  06:14 AM
                             [**2130-5-3**]  05:50 PM
                             [**2130-5-4**]  12:07 AM
                             [**2130-5-4**]  03:38 AM
                             [**2130-5-4**]  05:03 PM
                             [**2130-5-5**]  05:58 AM
   WBC
   10.2
   6.3
   4.9
   Hct
   22.7
   26.1
   24.5
   26.1
   Plt
   93
   79
   88
   Cr
   1.6
   1.3
   1.2
   1.0
   0.9
   TCO2
   32
   28
   29
   35
   Glucose
   171
   178
   188
   186
   140
   Other labs: PT / PTT / INR:17.1/34.3/1.5, ALT / AST:32/49, Alk Phos / T
   Bili:223/0.8, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:2.1 mg/dL
   BAL [**2130-4-30**]: yeast in BAL (no spp)
   BAL [**2130-5-3**]: neg for org and PCP
   [**Name Initial (PRE) **] [**2130-5-5**]: cont multi focal opacities, ETT in good position.
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna with progression into ARDS vs inflammatory
   lung disease, several days of worsening resp status with change in code
   status and subsequent intubation on [**4-29**].
   > Multifocal Pneumonia/ARDS: CT scan with diffuse disease with unclear
   primary cause as BAL was essentialy clear initially  (see below),
   however 1,3 glucan is positive (125) which is potentially suggestive of
   fungal vs pneumocystis however the BAL was negative.  Repeat BAL neg
   for PCP. [**Name10 (NameIs) **] may well be established ARDS (we cont to cover broadly
   - f/u blasto and coccido (histo urine Ag neg)
   - Continue vancomycin, and doxycycline per ID recommendations. Amikacin
   changed to  to aztreonam
   - F/u BAL specimen and GM in the BAL
   - Will spp out yeast from [**4-30**], no empiric therapy
    > Hypoxemic Resp failure: Probably multifactorial with multifocal pna,
   bronchospasm and fluid overload. Interestingly the bromnchscopsy on [**4-30**]
   revealed no secreiotns in the proxial or distal airways (on lavage)
   however more recently on [**5-3**] there was increased seretions potentially
   indicating a new superimposed process.   This could well be a infection
   that has now progressed into ARDS. Less likely an inflammatory lung
   condition: post infectious COP (although no signif improvement with
   steroids, vs AIP vs a very atypical presentation of pulm lymphoma.
   Cont supportive low Vt vent strategy (plateaus OK at 27 [**5-3**])
   - Continue bronchodilators
   -net fluid balance (may need lasix gtt)
   - Higher PEEP protocol with low Vt strategy (6 cc/kg). Will decrease
   FiO2 to 40% and then decrease PEEP 10. When PEEP 10 or less would try
   PS settings
   -Stopped steroids [**5-1**] as no inflammatory process driving this (BAL
   fluid c/w high PMN)
   - Versed , Fent  down significantly, hold at current doses
   - Intubated  [**2130-4-29**]
    > low grade fevers: would check set of blood, and urine cultures 6/12
   > Renal failure: amikcain toxicity vs volume shifts, urine lytes
   consistent with pre-renal (Cr and urine improved with fluid challenge).
   Now improved, will diurese today to goal net neg 1L
   - lasix for goal net neg 1L
    > Autoimmune hepatitis: now with likely hepatic encephalopathy
   - cont rifaximin
   - Holding azathioprine given cytopenia
   - Continue lactulose and ursodiol
   - Cont spironolactone
   - Hepatology recommendations appreciated
   - minimize sedation
   > Leukopenia: stable, but interestingly with no significant improvement
   on steroids, ? HIV or now new toxic medications vs septic suppression
   of marrow.   Probably due to medication effect (eg azathioprine) or
   current infection.  She did get one dose of GCSF, but stopped for
   concern of splenic rupture in patients with splenomegaly.  She has had
   a vigorous response.in her WBC.
   - Follow CBC daily
   - Holding azathioprine as above
   - Appreciate heme input
    > Anemia and thrombocytopenia
   -Hct and plts near baseline. Normal B12 and folate [**10-1**]. Chronic liver
   disease likely contributory.
   - Follow CBC daily
    Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-5**] 05:04 AM 60 mL/hour, Cont free H2O
   for hypernatremia (complicated by attempts at diuresis) will in
   addition trial 500 cc D5.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-05-06 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2130-5-5**] 09:30 AM
 URINE CULTURE - At [**2130-5-5**] 09:30 AM
 ARTERIAL LINE - START [**2130-5-6**] 04:00 AM
   left rad aline placed by md
   - requested speciation and susc of yeast in BAL
   - bolus IV lasix for I/O goal of -1 L
   - recultured
   - vent now down to 40% FiO2 with PEEP 10
   - gave 500 cc D5W for hyperNa
   - ID: await all results, continue vanco/aztreo/[**Year (4 digits) 9297**], if tularemia
   negative --> d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 9297**], [**First Name3 (LF) **] not adjust vanco dose before 4th dose and
   check vanco trough on [**5-6**] AM
   - insulin SS tightened
   - PM lytes normal
   - a-line placed
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-5**] 08:00 PM
   Aztreonam - [**2130-5-6**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2130-5-5**] 08:15 AM
   Fentanyl - [**2130-5-5**] 08:15 AM
   Furosemide (Lasix) - [**2130-5-5**] 02:17 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-5**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-6**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.5
C (97.7
   HR: 107 (94 - 110) bpm
   BP: 92/47(61) {78/47(59) - 109/59(74)} mmHg
   RR: 24 (20 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,527 mL
                                                                  1,274 mL
   PO:
             TF:
                                                                  1,450 mL
                                                                    444 mL
   IVF:
                                                                  1,647 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                    735 mL
   Urine:
                                                                  2,385 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,142 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 21.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/51/81.[**Numeric Identifier 607**]/32/10
   Ve: 8.5 L/min
   PaO2 / FiO2: 135
   Physical Examination
   GEN: Intubated, sedated, opens eyes to verbal stimuli
   HEENT: PERRL
   CARD: RRR, no m/r/g
   PULM: bilat scattered wheezes
   ABD: soft, hypoactive BS, obese
   EXT: anasarca
   Labs / Radiology
   89 K/uL
   8.0 g/dL
   149 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   46 mg/dL
   106 mEq/L
   142 mEq/L
   25.2 %
   6.4 K/uL
        [image002.jpg]
                             [**2130-5-3**]  06:14 AM
                             [**2130-5-3**]  05:50 PM
                             [**2130-5-4**]  12:07 AM
                             [**2130-5-4**]  03:38 AM
                             [**2130-5-4**]  05:03 PM
                             [**2130-5-5**]  05:58 AM
                             [**2130-5-5**]  05:00 PM
                             [**2130-5-6**]  03:04 AM
                             [**2130-5-6**]  04:36 AM
                             [**2130-5-6**]  07:11 AM
   WBC
   6.3
   4.9
   6.4
   Hct
   26.1
   24.5
   26.1
   25.2
   Plt
   79
   88
   89
   Cr
   1.3
   1.2
   1.0
   0.9
   0.9
   0.9
   TCO2
   35
   40
   37
   Glucose
   178
   188
   186
   140
   164
   149
   Other labs: PT / PTT / INR:17.9/40.2/1.6, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
   -continue ARDSnet ventilation
   -attempt to place A line
   -attempt to wean vent settings
   -6cc/kg TV on AC ventilation
   -conitnue vanc and aztreonam, dose vanc by level
   -continue doxycycline
   -send blastomycosis and coccidiomycosis, f/u blood cultures
   -repeat glucan and galactomannan
   * ARF: Cr improved to 0.9
   -UOP has been improving
   -i/o goal negative
   # hypernatremia: 500cc D5W
   -p.m. lytes
   * Sedation:
   -currently at good level of sedation, continue to monitor
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect
   -hold on GCSF
   * Asthma
   -Continue inhalers
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-6**] 05:46 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-5-6**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-06 11:08:00 Physician Attending Progress Note
Chief Complaint: 55 woman with autoimmune hepatitis
   HPI:
   24 Hour Events:
   Cx for fever (100.2)
 BLOOD CULTURED - At [**2130-5-5**] 09:30 AM
 URINE CULTURE - At [**2130-5-5**] 09:30 AM
 ARTERIAL LINE - START [**2130-5-6**] 04:00 AM
   left rad aline placed by md for frequent ABGs.
   Trial of diuresis.
   Vent weaned to lower PEEP, then had to go back up.
   ID following.  No new CX data.  Tularemia back on Tuesday.
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-5**] 08:00 PM
   Aztreonam - [**2130-5-6**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2130-5-5**] 02:17 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-6**] 08:16 AM
   Other medications: celexa, rifaxamin, Peridex, PPI, RISS, lactulose,
   Free water 250 q 4.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-6**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 107 (94 - 109) bpm
   BP: 103/58(73) {78/47(59) - 109/59(74)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,527 mL
                                                                  1,851 mL
   PO:
             TF:
                                                                  1,450 mL
                                                                    637 mL
   IVF:
                                                                  1,647 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                    915 mL
   Urine:
                                                                  2,385 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,142 mL
                                                                    936 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/51/81/32/10
   Ve: 7.7 L/min
   PaO2 / FiO2: 135
   Physical Examination
   GEN: NAD, sedated.  Arousable to touch, denies pain, follows commands
   and moves all four.
   Chest: Tachycardic, regular, no murmur.  Chest with crackles
   bilaterally.
   Abdomen: Soft, NT, +BS
   Ext: no edema.
   Labs / Radiology
   8.0 g/dL
   89 K/uL
   149 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   46 mg/dL
   106 mEq/L
   142 mEq/L
   25.2 %
   6.4 K/uL
        [image002.jpg]
                             [**2130-5-3**]  06:14 AM
                             [**2130-5-3**]  05:50 PM
                             [**2130-5-4**]  12:07 AM
                             [**2130-5-4**]  03:38 AM
                             [**2130-5-4**]  05:03 PM
                             [**2130-5-5**]  05:58 AM
                             [**2130-5-5**]  05:00 PM
                             [**2130-5-6**]  03:04 AM
                             [**2130-5-6**]  04:36 AM
                             [**2130-5-6**]  07:11 AM
   WBC
   6.3
   4.9
   6.4
   Hct
   26.1
   24.5
   26.1
   25.2
   Plt
   79
   88
   89
   Cr
   1.3
   1.2
   1.0
   0.9
   0.9
   0.9
   TCO2
   35
   40
   37
   Glucose
   178
   188
   186
   140
   164
   149
   Other labs: PT / PTT / INR:17.9/40.2/1.6, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan: 55 year-old woman with multifocal PNA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **]):
   Still unknown cause, follow-up cultures.  Check CMV VL again.
   Appreciate ID recs.  Will try to minimize lung stretch.  Try to run
   negative, with prn lasix as needed.
 HEPATITIS OTHER: with cirrhosis
 continue rifaxamin and lactulose.
 LEUKOPENIA: s/p G-CSF.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-6**] 05:46 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-5-6**] 04:00 AM
   Prophylaxis:
   DVT: hep SQ
   Stress ulcer: PPI
   VAP: Peridex, HOB>45
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 40 mins

2130-05-07 07:04:00 Physician Resident Progress Note
24 Hour Events:
   - repeat CMV VL
   - IV lasix 40 mg x 3 for I/O -500 goal
   - decreased free water 100 q 12 hours
   - ID recs: continue abx, check c. diff
   - decreased TV 300 x 24, FiO2 50% PEEP 10 --> ABG stable --> overnight
   TV 300 x 24, FiO2 50%, PEEP 8
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-6**] 08:00 PM
   Aztreonam - [**2130-5-7**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-6**] 10:00 PM
   Furosemide (Lasix) - [**2130-5-6**] 11:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-7**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 101 (100 - 112) bpm
   BP: 89/45(59) {89/45(59) - 120/66(82)} mmHg
   RR: 24 (21 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,013 mL
                                                                    644 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    383 mL
   IVF:
                                                                  1,352 mL
                                                                    262 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                  1,325 mL
   Urine:
                                                                  2,120 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    843 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 340) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 27.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/65/85.[**Numeric Identifier 128**]/33/9
   Ve: 7.2 L/min
   PaO2 / FiO2: 170
   Physical Examination
   GEN: opens eyes spontaneously, not follolwing commands
   HEENT: PERRL
   CARD: RRR, no m/r/g
   PULM: bilat scattered wheezes, crackles present
   ABD: soft, bowel sounds present, obese
   EXT: anasarca
   Labs / Radiology
   82 K/uL
   8.2 g/dL
   175 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.9 mEq/L
   41 mg/dL
   107 mEq/L
   143 mEq/L
   25.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2130-5-5**]  05:58 AM
                             [**2130-5-5**]  05:00 PM
                             [**2130-5-6**]  03:04 AM
                             [**2130-5-6**]  04:36 AM
                             [**2130-5-6**]  07:11 AM
                             [**2130-5-6**]  11:46 AM
                             [**2130-5-6**]  05:11 PM
                             [**2130-5-6**]  05:20 PM
                             [**2130-5-7**]  03:50 AM
                             [**2130-5-7**]  04:13 AM
   WBC
   4.9
   6.4
   7.6
   Hct
   26.1
   25.2
   25.7
   Plt
   88
   89
   82
   Cr
   0.9
   0.9
   0.9
   1.1
   1.0
   TCO2
   40
   37
   39
   38
   40
   Glucose
   140
   164
   149
   172
   175
   Other labs: PT / PTT / INR:17.9/40.2/1.6, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   CMV VL pending
   C. diff negative x 1
   Sputum 25 polys, no organisms
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
 unknown etiology
   - continue on Vanc/Aztreonam/Doxycycline.
   - talk to ID regarding course of vanc and aztreonam
   - f/u CMV VL
   - attempt to wean vent at PS [**8-31**] and repeat ABG as pt
s oxygenation
   improved
   - per ID, give vanc today and do not switch dosing (believe vanc level
   was too early)
   * ARF: Cr stable
   - diuresis for goal of
 500 cc to - 1 L
   - acetazolamide x 2 doses
   - 5 pm lytes
   * Hypernatremia:  in setting of decreased free water flushes
   - 100 q 6 hour free water flushes
   - 5 pm sodium
   * Hematuria: seen in Foley
   - s/p Foley change
   - send coags at 5 PM
   .
   * Sedation:
   - attempt to turn down fentanyl
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect, s/p
   * Asthma:
   -Continue inhalers
   * Diarrhea:
   - check c. diff x 2
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-5-6**] 04:00 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: lansoprazole
   VAP:  chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2130-05-07 11:23:00 Physician Attending Progress Note
Chief Complaint:
   Pna, ards
   I saw and examined the patient, and was physically present with the for
   key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   PEEP down to 8cmH20
   Lasix 40mg IV x 3
   Tmax 100.1
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-6**] 08:00 PM
   Aztreonam - [**2130-5-7**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-6**] 10:00 PM
   Furosemide (Lasix) - [**2130-5-6**] 11:09 PM
   Other medications: Rifaximin, celaxa, Peridex, PPI, RISS, lactulose
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-7**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 117 (101 - 117) bpm
   BP: 113/63(78) {89/45(59) - 120/66(82)} mmHg
   RR: 32 (21 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  4,012 mL
                                                                  1,170 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    660 mL
   IVF:
                                                                  1,352 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                  1,555 mL
   Urine:
                                                                  2,120 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    842 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/65/85 /33/9
   Ve: 7.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   GEN:
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   82 K/uL
   175 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.9 mEq/L
   41 mg/dL
   107 mEq/L
   143 mEq/L
   25.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2130-5-5**]  05:58 AM
                             [**2130-5-5**]  05:00 PM
                             [**2130-5-6**]  03:04 AM
                             [**2130-5-6**]  04:36 AM
                             [**2130-5-6**]  07:11 AM
                             [**2130-5-6**]  11:46 AM
                             [**2130-5-6**]  05:11 PM
                             [**2130-5-6**]  05:20 PM
                             [**2130-5-7**]  03:50 AM
                             [**2130-5-7**]  04:13 AM
   WBC
   4.9
   6.4
   7.6
   Hct
   26.1
   25.2
   25.7
   Plt
   88
   89
   82
   Cr
   0.9
   0.9
   0.9
   1.1
   1.0
   TCO2
   40
   37
   39
   38
   40
   Glucose
   140
   164
   149
   172
   175
   Other labs: PT / PTT / INR:17.9/40.2/1.6, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   C.diff and CMV pending.  Micro still negative.
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **]):
   Unknown etiology.  Has completed a 15 day course of antibiotics
 will
   discuss with ID length of course.  Follow-up remaining cultures.  Is
   doing well on PS trial.  Will attempt prolonged sbT and assess for
   extubation..  Will continue diuresis and will add acetazolamide for 2
   doses to correct metabolic (contraction) alkalosis.
 HYPERNATREMIA (HIGH SODIUM)  Stable.  Increase Free water slowly.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Resolved
 HEPATITIS OTHER: Continue lactulose.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-7**] 06:16 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-5-6**] 04:00 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: Peridex, HOB>45
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 mins

2130-05-08 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'd vanc and kept aztreonam, ID okay w/ this plan
   -weaned vent settings to [**3-28**] (had 40 minute trial of 0/0, ABG 7.44 / 55
   / 59, patient not completely awake, O2 sat 90%- so back to [**3-28**])
   -diamox started 250mg IV q12 x 2 doses for likely contraction alkylosis
   -Cr and Na stable
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-7**] 12:16 PM
   Aztreonam - [**2130-5-7**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2130-5-7**] 10:12 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-7**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-8**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 97 (97 - 117) bpm
   BP: 102/56(70) {90/46(60) - 118/63(78)} mmHg
   RR: 14 (14 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,192 mL
                                                                    267 mL
   PO:
             TF:
                                                                  1,371 mL
   IVF:
                                                                  1,111 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  3,573 mL
                                                                    563 mL
   Urine:
                                                                  2,023 mL
                                                                    263 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -381 mL
                                                                   -296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 420 (356 - 420) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 11 cmH2O
   Plateau: 23 cmH2O
   Compliance: 13 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/67/91.[**Numeric Identifier 96**]/36/10
   Ve: 6.1 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   92 K/uL
   7.8 g/dL
   117 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.8 mEq/L
   39 mg/dL
   106 mEq/L
   144 mEq/L
   24.6 %
   6.5 K/uL
        [image002.jpg]
                             [**2130-5-6**]  05:11 PM
                             [**2130-5-6**]  05:20 PM
                             [**2130-5-7**]  03:50 AM
                             [**2130-5-7**]  04:13 AM
                             [**2130-5-7**]  12:14 PM
                             [**2130-5-7**]  04:36 PM
                             [**2130-5-7**]  06:35 PM
                             [**2130-5-7**]  06:47 PM
                             [**2130-5-8**]  03:40 AM
                             [**2130-5-8**]  04:00 AM
   WBC
   7.6
   6.5
   Hct
   25.7
   24.9
   24.6
   Plt
   82
   92
   Cr
   1.1
   1.0
   1.0
   1.0
   TCO2
   38
   40
   37
   39
   40
   41
   Glucose
   172
   175
   176
   117
   Other labs: PT / PTT / INR:16.6/35.1/1.5, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
 unknown etiology
   - continue on Vanc/Aztreonam/Doxycycline.
   - talk to ID regarding course of vanc and aztreonam
   - f/u CMV VL
   - attempt to wean vent at PS [**8-31**] and repeat ABG as pt
s oxygenation
   improved
   - per ID, give vanc today and do not switch dosing (believe vanc level
   was too early)
   * ARF: Cr stable
   - diuresis for goal of
 500 cc to - 1 L
   - acetazolamide x 2 doses
   - 5 pm lytes
   * Hypernatremia:  in setting of decreased free water flushes
   - 100 q 6 hour free water flushes
   - 5 pm sodium
   * Hematuria: seen in Foley
   - s/p Foley change
   - send coags at 5 PM
   * Sedation:
   - attempt to turn down fentanyl
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect, s/p
   * Asthma:
   -Continue inhalers
   * Diarrhea:
   - check c. diff x 2
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-5-6**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-08 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > foley changed
   > received diamox and lasix IV  x 2
   > decreased PS and PEEP requirements
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-7**] 12:16 PM
   Aztreonam - [**2130-5-7**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2130-5-7**] 10:12 PM
   Heparin Sodium (Prophylaxis) - [**2130-5-7**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-8**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 98 (97 - 117) bpm
   BP: 103/56(70) {90/46(60) - 118/63(78)} mmHg
   RR: 15 (14 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,192 mL
                                                                    302 mL
   PO:
             TF:
                                                                  1,371 mL
   IVF:
                                                                  1,111 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  3,573 mL
                                                                    643 mL
   Urine:
                                                                  2,023 mL
                                                                    343 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -381 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (356 - 420) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.38/67/91.[**Numeric Identifier 96**]/36/10
   Ve: 6.1 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   92 K/uL
   117 mg/dL
   1.0 mg/dL
   36 mEq/L
   3.8 mEq/L
   39 mg/dL
   106 mEq/L
   144 mEq/L
   24.6 %
   6.5 K/uL
        [image002.jpg]
                             [**2130-5-6**]  05:11 PM
                             [**2130-5-6**]  05:20 PM
                             [**2130-5-7**]  03:50 AM
                             [**2130-5-7**]  04:13 AM
                             [**2130-5-7**]  12:14 PM
                             [**2130-5-7**]  04:36 PM
                             [**2130-5-7**]  06:35 PM
                             [**2130-5-7**]  06:47 PM
                             [**2130-5-8**]  03:40 AM
                             [**2130-5-8**]  04:00 AM
   WBC
   7.6
   6.5
   Hct
   25.7
   24.9
   24.6
   Plt
   82
   92
   Cr
   1.1
   1.0
   1.0
   1.0
   TCO2
   38
   40
   37
   39
   40
   41
   Glucose
   172
   175
   176
   117
   Other labs: PT / PTT / INR:16.6/35.1/1.5, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   CXR: [**5-8**] worsening pulm edema and cont multifocal opacities
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna and established ARDS now slowly improving
    >Dyspnea / Multifocal Pneumonia/resp failure
 unknown etiology, seems
   most c/w ARDS from a multifocal PNA.
   - tolerating slow decrease in PEEP/PS. Hopeful for extubation in the
   next  day or two
   - Abx: Aztreonam and doxycycline to stop [**5-10**],
   - Hold in sedation and use haldol for agitation.
   > ARF: Cr stable
   - diuresis for goal of
 500 cc to - 1 L
   - 5 pm lytes
   > Hypernatremia:  in setting of decreased free water flushes
   - 100 q 6 hour free water flushes
    > Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   >Leukopenia: Consider immunological compromise vs med effect, s/p 1
   dose of GCSF
   >Diarrhea:
   - check c. diff x 2: has been negative on repeated checks
   Additional issues per ICU resident note.
   ICU Care
   Nutrition: npo after midnight
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Arterial Line - [**2130-5-6**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2130-05-09 05:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2130-5-9**] 03:58 AM
   left rad aline placed by md
   -Per ID, stopped doxycycline with plan to d/c Aztreonam tomorrow if
   stable
   -Decreased sedation, used prn Haldol--1 dose po and 1 dose IV
   -Received Lasix at 11 am and became neg but HR went to 110-120s, so
   asked to delay second dose. Given Haldol as agitation likely a
   component of tachycardia
   -Following left arm erythema
   -Tularemia serology expected tomorrow
   -Patient pulled out foley with her feet, balloon inflated. Foley
   replaced
   -Lost A-line
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-7**] 12:16 PM
   Aztreonam - [**2130-5-9**] 04:33 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-5-8**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2130-5-8**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-9**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 102 (96 - 117) bpm
   BP: 109/49(121) {95/40(54) - 111/49(121)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,749 mL
                                                                    591 mL
   PO:
             TF:
                                                                    500 mL
   IVF:
                                                                    709 mL
                                                                    591 mL
   Blood products:
   Total out:
                                                                  1,943 mL
                                                                    205 mL
   Urine:
                                                                  1,443 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -194 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (316 - 417) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.43/55/78.[**Numeric Identifier 244**]/34/9
   Ve: 6.8 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   76 K/uL
   6.9 g/dL
   127 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.3 mEq/L
   38 mg/dL
   106 mEq/L
   145 mEq/L
   21.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2130-5-7**]  12:14 PM
                             [**2130-5-7**]  04:36 PM
                             [**2130-5-7**]  06:35 PM
                             [**2130-5-7**]  06:47 PM
                             [**2130-5-8**]  03:40 AM
                             [**2130-5-8**]  04:00 AM
                             [**2130-5-8**]  11:24 AM
                             [**2130-5-8**]  08:22 PM
                             [**2130-5-8**]  08:33 PM
                             [**2130-5-9**]  03:48 AM
   WBC
   6.5
   5.5
   Hct
   24.9
   24.6
   21.9
   Plt
   92
   76
   Cr
   1.0
   1.0
   1.1
   TCO2
   37
   39
   40
   41
   39
   38
   Glucose
   176
   117
   127
   Other labs: PT / PTT / INR:16.6/35.1/1.5, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
 unknown etiology
   -continue aztreonam and doxycycline
   -repeat ABG and if looks good attempt extubation
   -f/u repeat CMV VL
   -diurese w/ lasix 40mg IV bid
   * ARF: Cr stable at 1.0
   -attempt to diurese
   - diuresis for goal of
 500 cc to - 1 L
   - 5 pm lytes
   * Hypernatremia:  in setting of decreased free water flushes
   - 100 q 6 hour free water flushes
   - continue
   * Hematuria: seen in Foley
   - s/p Foley change
   - monitor
   * Sedation:
   - haldol prn agitation
   -attempt to avoid using fentanyl / versed for sedation given plans for
   extubation
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: Consider immunological compromise vs med effect, s/p
   * Asthma:
   -Continue inhalers
   * Tooth infection
   - panorex when stabilized
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-05-09 07:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2130-5-9**] 03:58 AM
   left rad aline placed by md
   > Patient self d/c
d the foley with balloon up and resulting hematuria.
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-7**] 12:16 PM
   Aztreonam - [**2130-5-9**] 04:33 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-5-8**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2130-5-8**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-9**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 101 (96 - 117) bpm
   BP: 109/50(64) {95/40(54) - 111/50(121)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,749 mL
                                                                    666 mL
   PO:
             TF:
                                                                    500 mL
   IVF:
                                                                    709 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                  1,943 mL
                                                                    405 mL
   Urine:
                                                                  1,443 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -194 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (316 - 417) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.43/55/78.[**Numeric Identifier 244**]/32/9
   Ve: 6.8 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, blood at the urethral meastus
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   6.9 g/dL
   76 K/uL
   91 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.4 mEq/L
   34 mg/dL
   109 mEq/L
   145 mEq/L
   21.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2130-5-7**]  12:14 PM
                             [**2130-5-7**]  04:36 PM
                             [**2130-5-7**]  06:35 PM
                             [**2130-5-7**]  06:47 PM
                             [**2130-5-8**]  03:40 AM
                             [**2130-5-8**]  04:00 AM
                             [**2130-5-8**]  11:24 AM
                             [**2130-5-8**]  08:22 PM
                             [**2130-5-8**]  08:33 PM
                             [**2130-5-9**]  03:48 AM
   WBC
   6.5
   5.5
   Hct
   24.9
   24.6
   21.9
   Plt
   92
   76
   Cr
   1.0
   1.0
   1.1
   0.9
   TCO2
   37
   39
   40
   41
   39
   38
   Glucose
   176
   117
   127
   91
   Other labs: PT / PTT / INR:16.6/35.1/1.5, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna and established ARDS now slowly improving
   with plan for extubation [**5-9**].
    >Dyspnea / Multifocal Pneumonia/resp failure
 unknown etiology, seems
   most c/w ARDS from a multifocal PNA.  Tolerated [**3-28**] for a prolonged
   period with marked improvement in mental status.  Hopeful for
   extubation today.
   - Plan to extubate today
   - Abx: Aztreonam to stop [**5-10**].
   - Hold in sedation and use haldol for agitation.
   > Anemia: drop in Hct to 22 from 25 (potentially from traumatic foley
   removal). Will recheck, but if low again would given 1U PRBC
   > ARF: Cr stable
   - goal even for today.
   > Hypernatremia:  in setting of decreased free water flushes
   - 100 q 6 hour free water flushes while intubated
   > Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   >Leukopenia: Consider immunological compromise vs med effect, s/p 1
   dose of GCSF
   Additional issues per ICU resident note.
   ICU Care
   Nutrition: SLP consult.
   Comments: holding tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2130-05-10 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2130-5-9**] 10:58 AM
   - extubated
   - I/O + 20 cc without intervention
   - S&S NPO now and nectar thick liquids with puree in AM, strict
   precautions, alternating bites and sips
   - NGT placed
   - increased lactulose 30 ml po QID
   - increased free water flushes to 150 q6 hours for Na 146
   - ID recs: d/c aztrenonam if stable, CMV VL negative and tularemia
   pending, consider LUE U/S
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-7**] 12:16 PM
   Aztreonam - [**2130-5-9**] 04:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-9**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-10**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.5
C (97.7
   HR: 93 (93 - 110) bpm
   BP: 115/51(66) {105/43(61) - 141/72(87)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,078 mL
                                                                    558 mL
   PO:
             TF:
   IVF:
                                                                    988 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                    871 mL
                                                                    205 mL
   Urine:
                                                                    871 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    207 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (537 - 537) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ///34/
   Ve: 7.9 L/min
   Physical Examination
   GEN: opens eyes spontaneously, following commands, interactive, alert
   HEENT: PERRL, MM moist
   NECK: JVP at 9 cm
   CARD: RRR, 3/6 SEM @ USB
   PULM: bilat scattered wheezes, crackles present
   ABD: soft, bowel sounds present, obese
   EXT: anasarca, pitting sacral edema
   Labs / Radiology
   89 K/uL
   7.6 g/dL
   105 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.2 mEq/L
   30 mg/dL
   110 mEq/L
   146 mEq/L
   24.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2130-5-7**]  06:47 PM
                             [**2130-5-8**]  03:40 AM
                             [**2130-5-8**]  04:00 AM
                             [**2130-5-8**]  11:24 AM
                             [**2130-5-8**]  08:22 PM
                             [**2130-5-8**]  08:33 PM
                             [**2130-5-9**]  03:48 AM
                             [**2130-5-9**]  10:05 AM
                             [**2130-5-9**]  09:37 PM
                             [**2130-5-10**]  03:20 AM
   WBC
   6.5
   5.5
   5.9
   Hct
   24.6
   21.9
   22.9
   24.2
   Plt
   92
   76
   89
   Cr
   1.0
   1.1
   0.9
   0.8
   0.9
   TCO2
   40
   41
   39
   38
   Glucose
   117
   127
   91
   110
   105
   Other labs: PT / PTT / INR:16.6/35.1/1.5, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
 unknown etiology, has completed
   antibiotic course.
   -Extubated [**5-9**]
   -s/s evaluation
NPO for now, NGT placed, plan for re-eval today
   -f/u micro data
esp Tularemia/remains pending
   -doing well on 50% shovel mask
   *Hematuria/Anemia: transfuse for <21. Change to 2-way foley and hand
   irrigate per Urology.
   -Hematocrit is stable, does not require transfusion
   -Continue Foley, does not require CBI
   * ARF: most likely related to Amikacin.  Improved
   -following electrolytes and attempting diuresis, has received dose of
   40 mg Lasix already this morning.
   -Goal neg 500-1 L
recheck lytes in am
   * Hypernatremia: continues on free water flushes at 200 cc q4h, repeat
   in AM
   * Confusion:  HE vs. ICU delirium
   - On increased lactulose dose, mental status stable
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: resolved off azathioprine
   * Asthma: continue inhalers
   * Tooth infection: panorex when stabilized, did complete long course of
   antibiotics
   ICU Care
   Nutrition: NPO for now, NGT, repeat s/s eval
   Glycemic Control:  HISS
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:  not intubated
   Comments:
   Communication:  Comments:  daughter
   [**Name (NI) 66**] status: Full code
   Disposition: ICU, expect c/o in am

2130-05-10 11:24:00 Physician Attending Progress Note
Chief Complaint: Multifocal pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   multifocal pneumonia
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2130-5-9**] 10:58 AM
   Failed s/s eval, NGT placed
   Good BM with increased lactulose
   Free water flushes increased
   Aztreonam d/ced per ID
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-5-7**] 12:16 PM
   Aztreonam - [**2130-5-9**] 04:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-9**] 09:00 PM
   Furosemide (Lasix) - [**2130-5-10**] 09:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-10**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.6
C (96
   HR: 94 (89 - 110) bpm
   BP: 128/60(75) {105/43(61) - 141/72(87)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,078 mL
                                                                    702 mL
   PO:
             TF:
   IVF:
                                                                    988 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                    871 mL
                                                                    675 mL
   Urine:
                                                                    871 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    207 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   FiO2: 50% shovel
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   JVD + 10 cm
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: diminished
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, anasarca
   Skin:  Warm, blood at the urethral meastus
   Neurologic: AAO x 3
   Labs / Radiology
   7.6 g/dL
   89 K/uL
   105 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.2 mEq/L
   30 mg/dL
   110 mEq/L
   146 mEq/L
   24.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2130-5-7**]  06:47 PM
                             [**2130-5-8**]  03:40 AM
                             [**2130-5-8**]  04:00 AM
                             [**2130-5-8**]  11:24 AM
                             [**2130-5-8**]  08:22 PM
                             [**2130-5-8**]  08:33 PM
                             [**2130-5-9**]  03:48 AM
                             [**2130-5-9**]  10:05 AM
                             [**2130-5-9**]  09:37 PM
                             [**2130-5-10**]  03:20 AM
   WBC
   6.5
   5.5
   5.9
   Hct
   24.6
   21.9
   22.9
   24.2
   Plt
   92
   76
   89
   Cr
   1.0
   1.1
   0.9
   0.8
   0.9
   TCO2
   40
   41
   39
   38
   Glucose
   117
   127
   91
   110
   105
   Other labs: PT / PTT / INR:16.6/35.1/1.5, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEPATITIS OTHER
 LEUKOPENIA
 ASTHMA
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna and established ARDS, extubated [**5-9**].
    > Multifocal Pneumonia/resp failure
 unknown etiology, seems most c/w
   ARDS from a multifocal PNA.
   - Abx: finished Vanc, amikacin, aztreonam, Zpak. None at the moment.
   Wean O2, continue nebs, diurese
   > ARF: Cr stable, I/O goal neg 1 L with diuresis, follow U/O
   > Hypernatremia:  free water flushes increased, pm lytes
   > Autoimmune hepatitis/cirrhosis/encephalopathy:
   - continue rifaximin, lactulose and ursodiol
   Additional issues per ICU resident note.
   ICU Care
   Nutrition: failed SLP consult, restart TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  patient and daughter
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.

2130-05-11 05:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -lasix 40mg IV x 2 given for diuresis
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Aztreonam - [**2130-5-9**] 04:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-10**] 03:47 PM
   Furosemide (Lasix) - [**2130-5-10**] 03:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-11**] 05:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 97 (89 - 112) bpm
   BP: 119/49(66) {99/46(62) - 158/70(86)} mmHg
   RR: 19 (16 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,566 mL
                                                                    471 mL
   PO:
             TF:
                                                                    136 mL
                                                                    166 mL
   IVF:
                                                                    480 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,347 mL
                                                                    113 mL
   Urine:
                                                                  1,647 mL
                                                                    113 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -781 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 93%
   ABG: ///36/
   Physical Examination
   GEN: opens eyes spontaneously, following commands, interactive, alert
   HEENT: PERRL, MM moist
   NECK: JVP at 9 cm
   CARD: RRR, 3/6 SEM @ USB
   PULM: bilat scattered wheezes, crackles present
   ABD: soft, bowel sounds present, obese
   EXT: anasarca, pitting sacral edema
   Labs / Radiology
   81 K/uL
   7.2 g/dL
   143 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.5 mEq/L
   31 mg/dL
   111 mEq/L
   148 mEq/L
   23.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2130-5-8**]  03:40 AM
                             [**2130-5-8**]  04:00 AM
                             [**2130-5-8**]  11:24 AM
                             [**2130-5-8**]  08:22 PM
                             [**2130-5-8**]  08:33 PM
                             [**2130-5-9**]  03:48 AM
                             [**2130-5-9**]  10:05 AM
                             [**2130-5-9**]  09:37 PM
                             [**2130-5-10**]  03:20 AM
                             [**2130-5-11**]  02:26 AM
   WBC
   6.5
   5.5
   5.9
   4.9
   Hct
   24.6
   21.9
   22.9
   24.2
   23.7
   Plt
   92
   76
   89
   81
   Cr
   1.0
   1.1
   0.9
   0.8
   0.9
   0.9
   TCO2
   41
   39
   38
   Glucose
   117
   127
   91
   110
   105
   143
   Other labs: PT / PTT / INR:16.6/35.1/1.5, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna.
   *Dyspnea / Multifocal Pneumonia
 unknown etiology, has completed
   antibiotic course.
   -Extubated [**5-9**]
   -s/s evaluation
NPO for now, NGT placed, plan for re-eval today
   -f/u micro data
esp Tularemia/remains pending
   -doing well on 50% shovel mask
   *Hematuria/Anemia: transfuse for <21. Change to 2-way foley and hand
   irrigate per Urology.
   -Hematocrit is stable, does not require transfusion
   -Continue Foley, does not require CBI
   * ARF: most likely related to Amikacin.  Improved
   -following electrolytes and attempting diuresis, has received dose of
   40 mg Lasix already this morning.
   -Goal neg 500-1 L
recheck lytes in am
   * Hypernatremia: continues on free water flushes at 200 cc q4h, repeat
   in AM
   * Confusion:  HE vs. ICU delirium
   - On increased lactulose dose, mental status stable
   * Autoimmune hepatitis:
   - continue rifaximin, lactulose and ursodiol
   - hold azathioprine given infection
   * Leukopenia: resolved off azathioprine
   * Asthma: continue inhalers
   * Tooth infection: panorex when stabilized, did complete long course of
   antibiotics
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2130-5-10**] 06:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2130-05-11 09:28:00 Physician Attending Progress Note
Chief Complaint: Multifocal pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Multifocal pneumonia
   24 Hour Events:
   FiO2 decreased to 4L
   Diuresed with lasix, tolerated well
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Ibuprofen
   Anaphylaxis;
   Ginger
   Anaphylaxis;
   Last dose of Antibiotics:
   Aztreonam - [**2130-5-9**] 04:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-5-10**] 03:47 PM
   Furosemide (Lasix) - [**2130-5-10**] 03:47 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-5-11**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 99 (89 - 112) bpm
   BP: 90/48(85) {90/46(59) - 158/70(86)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,566 mL
                                                                  1,005 mL
   PO:
             TF:
                                                                    136 mL
                                                                    335 mL
   IVF:
                                                                    480 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  2,347 mL
                                                                    231 mL
   Urine:
                                                                  1,647 mL
                                                                    231 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -781 mL
                                                                    774 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   General Appearance: Well nourished, cooperative
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   JVD + 10 cm
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: diminished
   Respiratory / Chest: (Breath Sounds: crackles and wheezes bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+, anasarca
   Neurologic: AAO x 3
   Labs / Radiology
   7.2 g/dL
   81 K/uL
   143 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.5 mEq/L
   31 mg/dL
   111 mEq/L
   148 mEq/L
   23.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2130-5-8**]  03:40 AM
                             [**2130-5-8**]  04:00 AM
                             [**2130-5-8**]  11:24 AM
                             [**2130-5-8**]  08:22 PM
                             [**2130-5-8**]  08:33 PM
                             [**2130-5-9**]  03:48 AM
                             [**2130-5-9**]  10:05 AM
                             [**2130-5-9**]  09:37 PM
                             [**2130-5-10**]  03:20 AM
                             [**2130-5-11**]  02:26 AM
   WBC
   6.5
   5.5
   5.9
   4.9
   Hct
   24.6
   21.9
   22.9
   24.2
   23.7
   Plt
   92
   76
   89
   81
   Cr
   1.0
   1.1
   0.9
   0.8
   0.9
   0.9
   TCO2
   41
   39
   38
   Glucose
   117
   127
   91
   110
   105
   143
   Other labs: PT / PTT / INR:16.6/35.1/1.5, ALT / AST:49/74, Alk Phos / T
   Bili:252/0.9, Differential-Neuts:99.0 %, Band:0.0 %, Lymph:0.0 %,
   Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:2.3 g/dL,
   LDH:327 IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 DELIRIUM / CONFUSION
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEPATITIS OTHER
 LEUKOPENIA
 ASTHMA
   55F with autoimmune hepatitis who presents with fever, cough, and
   dyspnea and multifocal pna and established ARDS, extubated [**5-9**], stable
   on few L O2.
   > Multifocal Pneumonia/resp failure
 completed abx. Continue diuresis.
   Strict aspiration precautions. Repeat speech/swallow when more alert.
   > Asthma: nebs around the clock for wheezing
   > ARF: Cr stable, I/O goal neg 1 L with diuresis, follow U/O
   > Hypernatremia:  free water flushes increased, pm lytes
   > Autoimmune hepatitis/cirrhosis/encephalopathy: continue rifaximin,
   lactulose and ursodiol
   ICU Care
   Nutrition: failed SLP consult, restart TF, video and barium swallow
   pending
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2130-4-29**] 02:48 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  patient and daughter
   [**Name (NI) 66**] status: Full code
   Disposition : Floor